2183-09-13 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   1L NS bolus x2 given. 1unit FFP and 1unit platelets given at MN, plt ck
   post transfusion. Additional 3units FFPs and 1unit Plts given to
   maintain plt count >50 for procedure.
   -Cipro started for double coverage as patient has GNRs
   -Started tramadol b/c would not cause spasms of gallbladder sphincter
   for HIDA scan. Will give dilaudid after if he needs.
   - Hida scan showed a gallbladder that would not fill. IR would not do
   cholecystostomy b/c of coags and low platelets. Gave a 6 pack of plts.
   and 4 units of FFP. INR 2.5->2.2; Plts 47->55. Not a good response. So,
   IR would not do the procedure Friday. Agreed to re-assess Saturday
   morning. (spoke with [**Doctor Last Name 9186**]) He will get 4 units of ffp and 6
   pack of plts prior to lab draw in AM. Will likely need more after, so
   will have this order ready and hold prn. IR number [**Serial Number 9187**]
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-12**] 07:54 PM
   Ciprofloxacin - [**2183-9-13**] 02:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-13**] 04:02 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2183-9-12**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain when lying on left side
   Flowsheet Data as of  [**2183-9-13**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 90 (83 - 102) bpm
   BP: 107/53(46) {107/53(46) - 107/53(67)} mmHg
   RR: 23 (16 - 44) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 73 - 73
   Total In:
                                                                 11,670 mL
                                                                  2,388 mL
   PO:
   TF:
   IVF:
                                                                 10,970 mL
                                                                    361 mL
   Blood products:
                                                                    700 mL
                                                                  2,027 mL
   Total out:
                                                                    485 mL
                                                                    280 mL
   Urine:
                                                                    485 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,185 mL
                                                                  2,108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.41/35/73.[**Numeric Identifier 252**]/26/-1
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, no JVD appreciated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Decreased air movement throughout
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  +BS, soft, obese with a positive fluid wave.  Diffusely
   tender to palpation throughout.  No rebound or guarding.
   GU: foley present with dark urine
   Ext: warm, well perfused, 1+ DP pulses, no clubbing, cyanosis or edema
   Neuro: Alert and oriented to person, place, and month/year but not
   day.  CN II-XII grossly intact.  sensation to light touch intact.
   Skin: Right arm with dry skin with pigmented skin changes.
   Labs / Radiology
   62 K/uL
   8.7 g/dL
   274 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.9 mEq/L
   45 mg/dL
   97 mEq/L
   133 mEq/L
   25.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2183-9-12**]  05:56 AM
                             [**2183-9-12**]  01:31 PM
                             [**2183-9-12**]  03:43 PM
                             [**2183-9-12**]  08:31 PM
                             [**2183-9-12**]  10:19 PM
                             [**2183-9-13**]  01:56 AM
                             [**2183-9-13**]  05:15 AM
   WBC
   8.3
   6.8
   5.0
   Hct
   40.8
   31.4
   25.5
   Plt
   47
   55
   39
   52
   62
   Cr
   1.8
   1.5
   1.5
   1.5
   TropT
   0.01
   TCO2
   23
   TBili
   3.7
   4.4
   3.5
   2.4
   Other labs: PT / PTT / INR:20/40.6/1.8, CK / CKMB /
   Troponin-T:55/4/0.01, ALT / AST:54/97, Alk Phos / T Bili:57/2.4,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, , Lactic Acid:5.0 mmol/L, Albumin:2.6 g/dL, LDH:147 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL. Haptoglobin: 53,
   Fibrinogen:335 mg/dL, FDP: <10 (DIC negative)
   Micro: GNR in peritoneal fluid; all other cultures pending
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis and sepsis
   # Acute cholecystitis :  . HIDA scan did not fill gallbladder,
   concerning as high pressure gallbladder needs to be removed.  Per
   surgery he is not a surgical candidiate .  IR planning on doing
   cholycystostomy today, as platelets are normalized and coags are
   normal. The differential also includes SBP (88 % polys on the
   peritoneal fluid differential) and GNR in peritoneum
   -  Cholecystostomy today per IR. Will reserve 4 units of FFP and 1 bag
   of platelets prior to procedure.
   -  Continue double coverage for pseudomonas with cipro and zosyn and
   continue empiric vanc until final cultures return
   -  IVF boluses prn for MAPs < 65. Patient has not required
   pressors..will continue to monitor. If BP not controlled, consider
   starting levophed
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  Ultram for pain; if significant pain, will give prn dilaudid.
   #  Sepsis:  Lactate still significantly elevated at 5, but coming
   down.  Most likely secondary to infection.  Potential infectious
   sources include biliary infection from acute cholecystitis (also
   causing secondary bacterial peritonitis), SBP,
   - Volume resuscitation with goal UOP 30 cc/hr and MAPs > 65 and CVP
   12-14 goal
   - Treatment with broad spectrum antibiotics (vanc and zosyn, cipro)
   while cultures are pending.
   - Will trend WBC and lactate.
   - F/u culture data.
   #  Change in mental status:  Per report from the ED, his family thought
   he had change in mental status.  On exam here he was oriented, but he
   has unknown baseline.  In the setting of his acute illness and
   decreased bowel movements most likely his change in mental status was
   due to hepatic encephalopathy.  Also in the differential is delirium or
   infection (UTI, SBP, bacteremia). Patient currently clear and oriented
   throughout the night.
   - Clarify baseline with family in the am.
   - Treatment of possible hepatic encephalopathy with lactulose
   - UCx pending.  F/U blood cultures and peritoneal cultures
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an INR of 1.8.
   - PPI [**Hospital1 **]
   - As above, lactulose for treatment of likely hepatic encephalopathy.
   - Holding aldactone, lasix, and nadolol due to potential for him to
   drop his blood pressures if he becomes septic.
   - Consider adding midodrine and octreotide
   #  Metabolic acidosis:  The patient has an anion gap of 13, but a low
   albumin around 2.8 so he has a slight anion gap metabolic acidosis as
   well as a non-anion gap acidosis.  His gap acidosis is likely from
   lactic acidosis (he had a lactate of 5.8).  He had the non-gap acidosis
   on presentation to the OSH and his Cl is not elevated so unlikely
   secondary to NS resuscitation.  Possibly due to bicarb loss from
   frequent stools secondary to lactulose.
   - Recheck panel and switch to D5 with bicarb if acidemic from NS as
   liver patient
s can
t metabolize bicarb in LR
makes them more acidemic
   - Trend lactate
   #  Hyponatremia:  Per OSH records the patient's Na was 126, now 133
   here.  Was found to be dry at the OSH and given IVF.  As his Na is
   correcting with volume repletion, likely hypovolemic hyponatremia.
   - Continue to trend.
   #  Thrombocytopenia:  The patient's plt are at 52 which per the OSH
   records is near his baseline.  Likely secondary to cirrhosis.
   - Continue to trend.
   - Transfuse platelets as needed
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr is
   reportedly at his baseline of 1.5, however in OMR in [**2180**] he had a
   normal Cr of 0.8.  His K was initially high, but has normalized. FeUrea
   was 5.7% c/w pre-renal etiology from septic picture
   - IVFs to maintain appropriate MAPS > 65 and UOP > 30 cc/hr
   - Trend Cr
    - Avoid nephrotoxins and renally dose medications.
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.  Patient appears volume depleted on exam.
   - Not on CAD/CHF regimen as an outpatient.
   - Will consider a TTE to assess cardiac function if he hasn't had a
   recent one at [**Hospital3 2851**].
   #  DMII:
   - While NPO will give [**12-13**] his regular home insulin regimen.
   - Monitor with qid finger sticks.
   #  Prostate cancer: On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: NPO, replete electrolytes
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-9-12**] 05:18 AM
   18 Gauge - [**2183-9-12**] 05:19 AM
   Right IJ: placed [**2183-9-12**]
   A-line placed [**2183-9-12**]
   Prophylaxis:
   DVT: Boots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: patient wants to wait for daughter (HCP) to discuss, Full
   code for now
   Disposition: ICU

2183-09-14 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2183-9-13**] 01:41 PM
 EKG - At [**2183-9-14**] 06:06 AM
   - s/p cholecystostomy by IR-currently draining brown sludge
   - on cipro/vanc/zosyn Day#3 (but had received a dose of zosyn the day
   previously in addition)
   - ascites and chole drainage (+) GNR.
   - s/p paracentesis with removal of 2L of fluid
   - PRN morphine in case dropping Sp02 and new tachycardia to the 100
   might have been related to pain level.
   - Started on 200 cc/hr IVF maintenance for dropping SBP to low 90
s and
   persistant tachycardia in the low 100
 500 cc of maintenance + 500
   cc bolus for dropping Urine Output and persistant tachycardia.
   - pt. weaned off pressors, remained afebrile
   - Afib overnight w rates 90s-100s, nadolol restarted bringing ventric
   rate into 80s
   - Sp02 94% on 6 L NC- increasing O2 requirement
   - No BM since [**9-13**] morning
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-13**] 07:48 PM
   Vancomycin - [**2183-9-13**] 08:02 PM
   Ciprofloxacin - [**2183-9-14**] 02:43 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2183-9-13**] 10:30 AM
   Morphine Sulfate - [**2183-9-14**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (99
   HR: 109 (81 - 109) bpm
   BP: 107/53(46) {0/0(0) - 0/0(0)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 7 (2 - 18)mmHg
   Total In:
                                                                  4,781 mL
                                                                  1,923 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,262 mL
                                                                  1,803 mL
   Blood products:
                                                                  3,399 mL
   Total out:
                                                                  3,410 mL
                                                                    418 mL
   Urine:
                                                                  1,170 mL
                                                                    318 mL
                                                                35-65cc/hr
   NG:
   Stool:
   Drains:
                                                                  2,240 mL
                                                                    100 mL
   Balance:
                                                                  1,371 mL
                                                                  1,505 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General: somnolent, oriented though slow to answer, mild distress,
   lying on left side
   HEENT: Sclera anicteric, MM dry, oropharynx clear
   Neck: supple, no JVD appreciated
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Decreased air movement throughout
   CV: Regular rate and rhythm
   Abdomen:  +BS, soft, obese with a positive fluid wave.  Increased
   tenderness of RUQ.  Cholestostomy tube draining from RUQ with brown
   liquid
   GU: foley in place w yellow urine
   Ext: warm, well perfused, 1+ DP pulses, no clubbing, cyanosis or edema
   Neuro: Alert and oriented to person, place, and month/year though slow
   to answer.  Mild asterixis present.
   Skin: Right forearm and hand with dryer skin than elsewhere with
   pigmented skin changes.
   Labs / Radiology
   45 K/uL
   9.5 g/dL
   185 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   52 mg/dL
   100 mEq/L
   135 mEq/L
   27.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2183-9-12**]  05:56 AM
                             [**2183-9-12**]  01:31 PM
                             [**2183-9-12**]  03:43 PM
                             [**2183-9-12**]  08:31 PM
                             [**2183-9-12**]  10:19 PM
                             [**2183-9-13**]  01:56 AM
                             [**2183-9-13**]  05:15 AM
                             [**2183-9-13**]  11:46 AM
                             [**2183-9-13**]  03:46 PM
                             [**2183-9-14**]  04:16 AM
   WBC
   8.3
   6.8
   5.0
   4.9
   6.5
   Hct
   40.8
   31.4
   25.5
   26.1
   27.7
   Plt
   47
   55
   39
   52
   62
   56
   48
   45
   Cr
   1.8
   1.5
   1.5
   1.5
   1.2
   TropT
   0.01
   TCO2
   23
   Glucose
   164
   240
   423
   274
   185
   Other labs: PT / PTT / INR:21.3/37.5/2.0, CK / CKMB /
   Troponin-T:55/4/0.01, ALT / AST:57/93, Alk Phos / T Bili:65/2.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:5.0 mmol/L, Albumin:2.6
   g/dL, LDH:189 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis and sepsis
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].
   -  Continue double coverage for pseudomonas with cipro and zosyn and
   continue empiric vanc until final cultures return
   -  IVF boluses prn for MAPs < 65. Patient has not required
   pressors..will continue to monitor. If BP not controlled, consider
   starting levophed
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   #  Sepsis:  Lactate still significantly elevated at 5, but started
   trending down yesterday.  Most likely secondary to bacterial
   peritonitis secondary to gallbladder infection.  SBP (88 % polys on the
   peritoneal fluid differential) as GNR in peritoneal fluid
   - Volume resuscitation with goal UOP 30 cc/hr and MAPs > 65 and CVP
   12-14 goal
   - Treatment with broad spectrum antibiotics (vanc and zosyn, cipro)
   while cultures are pending.
   - Will trend WBC and lactate.
   - F/u culture data.
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt clear and oriented currently
   - Clarify baseline with family .
   - Continue lactulose for probability of some hepatic encephalopathy
   - UCx pending.  F/U blood cultures and peritoneal cultures
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR.
   - PPI [**Hospital1 **]
   - As above, continue lactulose for treatment of likely hepatic
   encephalopathy.
   - Restarted nadolol overnight
   - Holding aldactone, lasix due to potential for him to drop his blood
   pressures if he becomes septic.
   - Increasing oxygen requirements, likely from ascitic fluid. Will
   monitor after pericentesis today.
   # Atrial Fibrillation:  Ventricular rates in upper 90s and lower 100s
   overnight, but more controlled now.  No signs of hemodynamic
   instability
   - restarted home nadolol though not used for BP and HR
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative
   - Guaiac stools
   - Monitor Hcts, especially after procedure.
   #  Metabolic acidosis:  Presented w lactic Acidosis and likely nongap
   acidosis from diarrhea in addition to probable primary respiratory
   alkalosis from cirrhotic disease. No longer has gap acidosis.
   - Continue to monitor and switch to D5 with bicarb if acidemic from NS
   as liver patient
s can
t metabolize bicarb in LR
   - Trend lactate
   #  Thrombocytopenia:  The patient's plt are at 45, baseline in 50s,
   likely secondary to cirrhosis.
   - Continue to trend.
   - Transfuse platelets to greater than 50.
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr is
   reportedly at his baseline of 1.2 (however in OMR in [**2180**] he had a
   normal Cr of 0.8).  K was initially high, but has normalized. FeUrea
   was 5.7% c/w pre-renal etiology from septic picture
   - IVFs to maintain appropriate MAPS > 65 and UOP > 30 cc/hr
   - Trend Cr
    - Avoid nephrotoxins and renally dose medications.
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.  Patient appears volume depleted on exam.
   - Not on CAD/CHF regimen as an outpatient.
   - Will consider a TTE to assess cardiac function if he hasn't had a
   recent one at [**Hospital3 2851**].
   #  DMII:
   - While NPO will give [**12-13**] his regular home insulin regimen.
   - Monitor with qid finger sticks.
   #  Prostate cancer: On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2183-9-12**] 07:50 AM
   Multi Lumen - [**2183-9-12**] 10:00 AM
   20 Gauge - [**2183-9-13**] 08:02 AM
   Prophylaxis:
   DVT: Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments: Communication:
   Code status: Full code for now (per daughter, HCP)
   Disposition: ICU

2183-09-14 08:57:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2183-9-13**] 01:41 PM--2 liters removed without event
 EKG - At [**2183-9-14**] 06:06 AM
   Cholecystostomy Tube placed without event
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-13**] 07:48 PM
   Ciprofloxacin - [**2183-9-14**] 02:43 AM
   Vancomycin - [**2183-9-14**] 08:28 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2183-9-13**] 10:30 AM
   Morphine Sulfate - [**2183-9-14**] 04:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Pain: [**2-12**] Mild
   Pain location: Abdominal
   Flowsheet Data as of  [**2183-9-14**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 79 (79 - 109) bpm
   BP: 107/53(46) {0/0(0) - 0/0(0)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (2 - 18)mmHg
   Total In:
                                                                  4,781 mL
                                                                  2,147 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,262 mL
                                                                  2,027 mL
   Blood products:
                                                                  3,399 mL
   Total out:
                                                                  3,410 mL
                                                                    493 mL
   Urine:
                                                                  1,170 mL
                                                                    393 mL
   NG:
   Stool:
   Drains:
                                                                  2,240 mL
                                                                    100 mL
   Balance:
                                                                  1,371 mL
                                                                  1,654 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, No(t) Non-tender, Tender: RUQ--mild, Obese
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   45 K/uL
   185 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   52 mg/dL
   100 mEq/L
   135 mEq/L
   27.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2183-9-12**]  05:56 AM
                             [**2183-9-12**]  01:31 PM
                             [**2183-9-12**]  03:43 PM
                             [**2183-9-12**]  08:31 PM
                             [**2183-9-12**]  10:19 PM
                             [**2183-9-13**]  01:56 AM
                             [**2183-9-13**]  05:15 AM
                             [**2183-9-13**]  11:46 AM
                             [**2183-9-13**]  03:46 PM
                             [**2183-9-14**]  04:16 AM
   WBC
   8.3
   6.8
   5.0
   4.9
   6.5
   Hct
   40.8
   31.4
   25.5
   26.1
   27.7
   Plt
   47
   55
   39
   52
   62
   56
   48
   45
   Cr
   1.8
   1.5
   1.5
   1.5
   1.2
   TropT
   0.01
   TCO2
   23
   Glucose
   164
   240
   423
   274
   185
   Other labs: PT / PTT / INR:21.3/37.5/2.0, CK / CKMB /
   Troponin-T:55/4/0.01, ALT / AST:57/93, Alk Phos / T Bili:65/2.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:5.0 mmol/L, Albumin:2.6
   g/dL, LDH:189 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   70 yo male male with history of cirrhosis now admitted with sepsis
   secondary to cholecystitis and bacterial peritonitis.  He has had
   drainage of biliary system (gallbladder) and therapeutic paracentesis
   yesterday to aid in respiratory status which was characterized by
   tachypnea and hypoxia persisting through to this morning.
   1)Sepsis-
   -Remains off pressors and has required only mildly positive fluild
   balance and in fact tolerated paracentesis well
   -Vanco/Zosyn/Cipro
   -Follow culture results
   2)CHOLECYSTITIS--Patient with similar findings on liver associated
   enzymes in the setting of known cirrhosis
   -Will maintain drainage at this time pending resolution
   3)H/O CIRRHOSIS OF LIVER, OTHER
   -Lactulose to continue with patient showing only mild asterixis this
   morning but no BM since yesterday
   -Will continue with Nadolol
   -He is oriented to place and month this morning
   -Renal function is reassuring
   4)Atrial Fibrillation-
   -Nadolol in place
   -Rate well controlled
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   ICU Care
   Nutrition: has been NPO at this time time except meds
will return to PO
   diet as cholecystitis continues to diminish
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2183-9-12**] 07:50 AM
Will D/C a-line today
   Multi Lumen - [**2183-9-12**] 10:00 AM
   20 Gauge - [**2183-9-13**] 08:02 AM
   Prophylaxis:
   DVT: Boots at this time
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2183-09-15 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: nausea, vomiting, RUQ abdominal pain
   24 Hour Events:
   [**9-14**]:
   - ABG (w non-rebreather): 7.33/54/107
   - had been lying on his left side, so much of abdominal fluids probably
   shifted into left pleural cavity; also had received 14L? extra in last
   couple of days
   - didn't respond to lasix 20mg IV, so tried 40mg IV lasix
   - ABG: with non-invasive ventilation BIPAP for 1.5 hrs-- 7.36/52/95
   - switched back to non-rebreather for comfort
   - switched back to Bipap for a couple of hours
   - A-line placed right radial, ABG 21:00 unchanged, pt feels
   subjectively more difficulty breathing-->  INTUBATED at 21:50 by
   anesthesia, placed on AC w tidal volumes 450cc
   -> Intubation done w intention of improving respiratory status to buy
   us more time to get the fluid out of his chest cavity -- thought to be
   positional from belly; will likely tap 5-6L [**9-15**] to help
   - OG tube placed for tube feeds
   - started on phenylephrine pressor to maintain BP, likely because of
   increased sedation from intubation procedure,  hopefully can be weaned
   once extra intubation sedation wears off by morning; on midaz and
   fentanyl currently for sedation, did get some propofol during
   intubation procedure
   -Chole draining putting out brown liquid
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-14**] 07:57 PM
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-15**] 04:08 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-14**] 04:12 PM
   Morphine Sulfate - [**2183-9-14**] 07:30 PM
   Propofol - [**2183-9-14**] 09:45 PM
   Midazolam (Versed) - [**2183-9-14**] 10:13 PM
   Fentanyl - [**2183-9-14**] 10:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt sedated, unable to provide ROS
   Flowsheet Data as of  [**2183-9-15**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 70 (57 - 110) bpm
   BP: 117/63(82) {85/46(61) - 129/63(86)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (6 - 32)mmHg
   Total In:
                                                                  3,401 mL
                                                                    560 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,221 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  1,248 mL
                                                                    257 mL
   Urine:
                                                                    948 mL
                                                                    157 mL
   NG:
   Stool:
   Drains:
                                                                    300 mL
                                                                    100 mL
   Balance:
                                                                  2,153 mL
                                                                    303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 779 (779 - 928) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/53/74/27/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: sedated, responsive to commands
   HEENT: Sclera anicteric, MM dry
   Neck: supple, no JVD appreciated, difficult to assess given habitus
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Decreased air movement throughout
   CV: Regular rate and rhythm, normal S1, S2.  No murmurs rub or gallops
   appreciated
   Abdomen:  +BS, tense, obese with a positive fluid wave.  No detectable
   increased tenderness of RUQ.  Cholestostomy tube draining from RUQ with
   brown liquid, no erythema or induration surrounding tube.
   GU: foley in place w yellow urine
   Ext: warm, well perfused, 1+ DP pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: sedated, minimally responsive to commands
   Skin: Right forearm and hand with dryer skin than elsewhere with
   pigmented skin changes.
   Labs / Radiology
   108 K/uL
   10.8 g/dL
   199 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   65 mg/dL
   99 mEq/L
   133 mEq/L
   32.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2183-9-13**]  03:46 PM
                             [**2183-9-14**]  04:16 AM
                             [**2183-9-14**]  04:05 PM
                             [**2183-9-14**]  06:02 PM
                             [**2183-9-14**]  09:06 PM
                             [**2183-9-14**]  11:36 PM
                             [**2183-9-15**]  01:42 AM
                             [**2183-9-15**]  02:40 AM
                             [**2183-9-15**]  04:00 AM
                             [**2183-9-15**]  04:05 AM
   WBC
   4.9
   6.5
   13.9
   Hct
   26.1
   27.7
   32.8
   Plt
   48
   45
   108
   Cr
   1.2
   1.4
   1.6
   TCO2
   31
   28
   31
   31
   29
   30
   Glucose
   185
   199
   199
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:55/4/0.01, ALT / AST:57/93, Alk Phos / T Bili:65/2.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.6
   g/dL, LDH:189 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   -          CXR: mediastinal widening, likely secondary to significant
   LLL atelectasis and significant Left pleural effusion
[**2183-9-13**] 1:27 pm PERITONEAL FLUID      PERITONEAL FLUID.
   GRAM STAIN (Final [**2183-9-13**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
FLUID CULTURE (Preliminary):
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
[**2183-9-12**] 2:40 am PERITONEAL FLUID      PERITONEAL FLUID.
   GRAM STAIN (Final [**2183-9-12**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy and intubation.
   Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  CXR today with ?
   atelectasis versus pleural effusions
   -          Esoaphageal balloon study to evaluate pleural pressures.
   -          Pending esophageal balloon study, consider pericentesis
   today to drain ascites as this will help his fluid overload
   -          Consider lasix to decrease pulmonary effusions
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   susceptible to zosyn, resistant to cipro.
   - Volume resuscitation with goal UOP 30 cc/hr and MAPs > 65 and CVP
   12-14 goal
   - Was started on vanc, zosyn, cipro pending cultures.  Can d/c cipro
   and vanc given cultures with E. Coli.
   - Will trend WBC and lactate.
   - F/u culture data
   - repeat blood culture, send sputum culture and repeat peritoneal
   culture if pericentesis today
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   dark brown.
   -  Continue zosyn and d/c vanc and cipro as above
   -  will check KUB per surgery recs
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr is
   reportedly at his baseline of 1.2 (however in OMR in [**2180**] he had a
   normal Cr of 0.8).  Cr now increasing, likely due to combination
   intravascular volume depletion, phenylephrine, and ? abdominal
   compartment syndrome.  K was initially high, but has normalized. FeUrea
   was 5.7% c/w pre-renal etiology from septic picture
   - IVFs to maintain appropriate MAPS > 65 and UOP > 30 cc/hr.  Will hold
   for now pending results from bladder pressure and esophageal balloon
   study
   - Trend Cr
   - Avoid nephrotoxins and renally dose medications.
   - will check bladder pressure to evaluate for component of abdominal
   compartment syndrome and consider pericentesis if bladder pressure > 20
   cm H2O
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation:  Ventricular rates in upper 90s and lower 100s
   overnight, but more controlled now.  No signs of hemodynamic
   instability
   - restarted home nadolol though not used for BP and HR.  D/C nadolol
   now given HR well-controlled and other potential causes for minimal
   tachycardia
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR.
   - PPI [**Hospital1 **]
   - Trend platelets, coags and LFTs
   - Pericentesis today if elevated bladder/pleural pressure
   - Continue lactulose for treatment of likely hepatic encephalopathy.
   Add Erythromycin for gastric motility.  Goal [**3-16**] BMs today
   - Hold nadolol for now
   - Holding aldactone for now
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt oriented currently but somewhat somnolent.
   Somnolence may also be due to hypercarbia.
   - Clarify baseline with family .
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood and peritoneal cultures
   - check ammonia
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative. HCT now
   improving, likely secondary to intravascular volume depletion in
   setting of worse ascites
   - Guaiac stools
   - Monitor Hcts, especially after procedure.
   #  Thrombocytopenia:  Plts now 108
   - continue to trend
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.  Patient appears volume depleted on exam.
   - Not on CAD/CHF regimen as an outpatient.  Will consider starting
   outpatient regimen once present clinical picture improves.
   - Will consider a TTE to assess cardiac function if he hasn't had a
   recent one at [**Hospital3 2851**].
   #  DMII:
   - While NPO will give [**12-13**] his regular home insulin regimen.
   - Monitor with qid finger sticks.
   #  Prostate cancer: Stable. On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: OG tube feeds
   Glycemic Control:  standing insulin + sliding scale
   Lines:
   Arterial Line - [**2183-9-12**] 07:50 AM
   Multi Lumen - [**2183-9-12**] 10:00 AM
   20 Gauge - [**2183-9-13**] 08:02 AM
   Prophylaxis:
   DVT: Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments: Communication: - family notified-- note: w further changes in
   status, pls notify daughter first and let her contact her mother; pt's
   wife was getting distraught over news of intubation over phone,
   thinking that he was not going to make it, and daughter feels as though
   she doesn't understand well and would rather explain to her mother
   herself
   [**Name2 (NI) 156**] status: Full code for now (per daughter, HCP)
   Disposition: ICU

2183-09-15 11:26:00 Physician Attending Progress Note
Chief Complaint: Cholecystitis, hypotension, acute renal failure,
   cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient intubated and started on mechanical ventilation for increased
   respiratory distress. Following intubation, blood pressure dropped and
   vasopressors started. CVP 9-10 on 10 of PEEP.
   WBC elevated compared to yesterday.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2183-9-14**] 10:00 AM
 EKG - At [**2183-9-14**] 12:52 PM
 NON-INVASIVE VENTILATION - START [**2183-9-14**] 02:17 PM
 ARTERIAL LINE - START [**2183-9-14**] 09:13 PM
 INVASIVE VENTILATION - START [**2183-9-14**] 09:50 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-15**] 04:08 AM
   Vancomycin - [**2183-9-15**] 07:58 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-14**] 04:12 PM
   Morphine Sulfate - [**2183-9-14**] 07:30 PM
   Propofol - [**2183-9-14**] 09:45 PM
   Midazolam (Versed) - [**2183-9-14**] 10:13 PM
   Fentanyl - [**2183-9-14**] 10:20 PM
   Other medications:
   Lactulose, omeprazole, insulin, corgard, chlorehexidine, phenylephrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-15**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 62 (57 - 85) bpm
   BP: 101/55(70) {85/46(61) - 129/63(86)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (6 - 23)mmHg
   Total In:
                                                                  3,401 mL
                                                                    984 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  3,221 mL
                                                                    854 mL
   Blood products:
   Total out:
                                                                  1,248 mL
                                                                    637 mL
   Urine:
                                                                    948 mL
                                                                    337 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    300 mL
                                                                    100 mL
   Balance:
                                                                  2,153 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 779 (779 - 928) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 94%
   ABG: 7.34/53/74/27/0
   Ve: 10.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: bilaterally, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Tense, distended abdomen
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   108 K/uL
   199 mg/dL
   1.6 mg/dL
   27 mEq/L
   4.0 mEq/L
   65 mg/dL
   99 mEq/L
   133 mEq/L
   32.8 %
   13.9 K/uL
        [image002.jpg]
                             [**2183-9-13**]  03:46 PM
                             [**2183-9-14**]  04:16 AM
                             [**2183-9-14**]  04:05 PM
                             [**2183-9-14**]  06:02 PM
                             [**2183-9-14**]  09:06 PM
                             [**2183-9-14**]  11:36 PM
                             [**2183-9-15**]  01:42 AM
                             [**2183-9-15**]  02:40 AM
                             [**2183-9-15**]  04:00 AM
                             [**2183-9-15**]  04:05 AM
   WBC
   4.9
   6.5
   13.9
   Hct
   26.1
   27.7
   32.8
   Plt
   48
   45
   108
   Cr
   1.2
   1.4
   1.6
   TCO2
   31
   28
   31
   31
   29
   30
   Glucose
   185
   199
   199
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:62/74, Alk Phos / T Bili:70/4.4,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7
   g/dL, LDH:168 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: Gram negative rods in blood and peritoneal
   fluid-- E coli in peritoneal fluid sensitive to Zosyn
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 .H/O CIRRHOSIS OF LIVER, OTHER
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   ================
   Patient hypotensive post intubation. CVP suggests low intravascular
   filling; suspect high pleural pressure because of tense ascites and
   weight. Will assess pleural pressure. I think CXR yesterday showed a
   moderate amount of atelectasis in the left lung. This looks better on
   CXR today, but I suspect he may benefit from higher PEEP. Still has
   moderate oxygen requirement.
   Urine output down and creatinine is elevated. Concern about abdominal
   compartment syndrome. Will asssess bladder pressure. [**Month (only) 8**] need
   paracentesis today. Would like to switch vasopressor - phenylephrine
   may further compromise renal perfusion. Patient had brief episode of
   afib several days ago; hence, concern about using an inotropic [**Doctor Last Name **].
   At this time, however, I think the relative [**Name (NI) 9203**] of the beta agonist is
   less than the pure alpha agonist. Will also begin vasopressin.
   Patient with evidence of gram negative bacteremia now. Awaiting final
   results of cultures to determine if this is the same organism as in
   ascites.
   Hct stable. No evidence of acute bleeding. Not at transfusion
   threshold.
   Getting lactulose in setting of cirrhosis and infection to minimize
   enchaphalopathy; high gastric residuals, however, now. Try promotility
   [**Doctor Last Name **].
   Oxygenation okay with FIO2 0.5; will increase PEEP to 12 while waiting
   for pleural pressure measurement. ABG consistent with chronic
   respiratory acidosis.
   ICU Care
   Nutrition: Tube feeding to be started.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   20 Gauge - [**2183-9-14**] 11:47 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
s condition with his wife
   and daughter.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-09-16 06:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pleural pressure 12/0 inspiraton/end-expiration by esophageal balloon.
    Changed PEEP to 15.
   - bladder pressure 21, then 19 s/p tap. to assess abdominal pressures
   with concern for abdominal compartment syndrome and compression of
   renal arteries
   - sent sputum cultures (?aspiration PNA?)
   - d/c cipro/vanc; e. coli by blood and peritoneal cultures; continue
   zosyn
   - therapeutic paracentesis with 4 L amber fluid removed.  Sent for gram
   stain and culture.  Tolerated procedure well.  100 g albumin given
   immediately after procedure.
   - KUB done, non-diagnostic given large amount of ascites.  Surgery
   signed off.
   - d/c nadolol
   - switch to levo/vaso from phenylephrine.
   - received 1 L NS bolus s/p tap to maintain u/o > 30 ml/hr.  U/O
   increased to 50-75 ml/hr s/p tap
   - Esophageal Balloon done again overnight. Expiratory transpulmonary
   pressure was 0. Inspiratory Transmural pressure was 7. at a PEEP of 15.
   ABG showed a PaO2 of 97 so PEEP was decreased to 12.
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Vancomycin - [**2183-9-15**] 07:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-16**] 04:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-16**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 75 (59 - 87) bpm
   BP: 106/53(71) {94/52(67) - 122/77(92)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.9 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 6 (6 - 13)mmHg
   Bladder pressure: 19 (19 - 21) mmHg
   Total In:
                                                                  3,318 mL
                                                                    807 mL
   PO:
   TF:
                                                                    192 mL
                                                                    225 mL
   IVF:
                                                                  2,256 mL
                                                                    262 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,262 mL
                                                                    596 mL
   Urine:
                                                                    762 mL
                                                                    406 mL
   NG:
                                                                    260 mL
                                                                     30 mL
   Stool:
   Drains:
                                                                  4,240 mL
                                                                    160 mL
   Balance:
                                                                 -1,944 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/40/103/26/1
   Ve: 10 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General: sedated, responsive to commands
   HEENT: Sclera anicteric, MM dry
   Neck: supple, no JVD appreciated, difficult to assess given habitus
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi.
   Decreased air movement throughout
   CV: Regular rate and rhythm, normal S1, S2.  No murmurs rub or gallops
   appreciated
   Abdomen:  +BS, tense, obese with a positive fluid wave.  No detectable
   increased tenderness of RUQ.  Cholestostomy tube draining from RUQ with
   brown liquid, no erythema or induration surrounding tube.
   GU: foley in place w yellow urine
   Ext: warm, well perfused, 1+ DP pulses, no clubbing, cyanosis or edema,
   pneumoboots in place
   Neuro: sedated, minimally responsive to commands
   Skin: Right forearm and hand with dryer skin than elsewhere with
   pigmented skin changes.
   Labs / Radiology
   45 K/uL
   10.2 g/dL
   267 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   78 mg/dL
   101 mEq/L
   134 mEq/L
   29.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2183-9-15**]  01:42 AM
                             [**2183-9-15**]  02:40 AM
                             [**2183-9-15**]  04:00 AM
                             [**2183-9-15**]  04:05 AM
                             [**2183-9-15**]  02:14 PM
                             [**2183-9-15**]  02:23 PM
                             [**2183-9-15**]  03:45 PM
                             [**2183-9-16**]  01:03 AM
                             [**2183-9-16**]  03:52 AM
                             [**2183-9-16**]  04:08 AM
   WBC
   13.9
   5.8
   Hct
   32.8
   29.8
   Plt
   108
   92
   45
   Cr
   1.6
   1.7
   1.5
   TCO2
   31
   29
   30
   28
   26
   27
   Glucose
   199
   170
   267
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:50/59, Alk Phos / T Bili:59/5.0,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7
   g/dL, LDH:146 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy and intubation.
   Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  CXR today with ?
   atelectasis versus pleural effusions
   -          Esoaphageal balloon study to evaluate pleural pressures.
   -          Pending esophageal balloon study, consider pericentesis
   today to drain ascites as this will help his fluid overload
   -          Consider lasix to decrease pulmonary effusions
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   susceptible to zosyn, resistant to cipro.
   - Volume resuscitation with goal UOP 30 cc/hr and MAPs > 65 and CVP
   12-14 goal
   - Was started on vanc, zosyn, cipro pending cultures.  Can d/c cipro
   and vanc given cultures with E. Coli.
   - Will trend WBC and lactate.
   - F/u culture data
   - repeat blood culture, send sputum culture and repeat peritoneal
   culture if pericentesis today
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   dark brown.
   -  Continue zosyn and d/c vanc and cipro as above
   -  will check KUB per surgery recs
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr is
   reportedly at his baseline of 1.2 (however in OMR in [**2180**] he had a
   normal Cr of 0.8).  Cr now increasing, likely due to combination
   intravascular volume depletion, phenylephrine, and ? abdominal
   compartment syndrome.  K was initially high, but has normalized. FeUrea
   was 5.7% c/w pre-renal etiology from septic picture
   - IVFs to maintain appropriate MAPS > 65 and UOP > 30 cc/hr.  Will hold
   for now pending results from bladder pressure and esophageal balloon
   study
   - Trend Cr
   - Avoid nephrotoxins and renally dose medications.
   - will check bladder pressure to evaluate for component of abdominal
   compartment syndrome and consider pericentesis if bladder pressure > 20
   cm H2O
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation:  Ventricular rates in upper 90s and lower 100s
   overnight, but more controlled now.  No signs of hemodynamic
   instability
   - restarted home nadolol though not used for BP and HR.  D/C nadolol
   now given HR well-controlled and other potential causes for minimal
   tachycardia
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR.
   - PPI [**Hospital1 **]
   - Trend platelets, coags and LFTs
   - Pericentesis today if elevated bladder/pleural pressure
   - Continue lactulose for treatment of likely hepatic encephalopathy.
   Add Erythromycin for gastric motility.  Goal [**3-16**] BMs today
   - Hold nadolol for now
   - Holding aldactone for now
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt oriented currently but somewhat somnolent.
   Somnolence may also be due to hypercarbia.
   - Clarify baseline with family .
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood and peritoneal cultures
   - check ammonia
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative. HCT now
   improving, likely secondary to intravascular volume depletion in
   setting of worse ascites
   - Guaiac stools
   - Monitor Hcts, especially after procedure.
   #  Thrombocytopenia:  Plts now 108
   - continue to trend
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.  Patient appears volume depleted on exam.
   - Not on CAD/CHF regimen as an outpatient.  Will consider starting
   outpatient regimen once present clinical picture improves.
   - Will consider a TTE to assess cardiac function if he hasn't had a
   recent one at [**Hospital3 2851**].
   #  DMII:
   - While NPO will give [**12-13**] his regular home insulin regimen.
   - Monitor with qid finger sticks.
   #  Prostate cancer: Stable. On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: OG tube feeds
   Nutren 2.0 (Full) - [**2183-9-16**] 01:38 AM 35 mL/hour
   Glycemic Control:   Insulin standing + sliding scale
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   20 Gauge - [**2183-9-15**] 02:00 PM
   Prophylaxis:
   DVT:  Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  : Communication: - family notified-- note: w
   further changes in status, pls notify daughter first and let her
   contact her mother; pt's wife was getting distraught over news of
   intubation over phone, thinking that he was not going to make it, and
   daughter feels as though she doesn't understand well and would rather
   explain to her mother herself
   [**Name2 (NI) 156**] status: Full code for now (per daughter, HCP)
   Disposition:  ICU

2183-09-16 10:44:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, hypotension,
   cirrhosis, cholecystitis, thrombocytopenia, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had removal of 4L of ascitic fluid yesterday. Bladder pressure
   down slightly - now 19; albumin given at the same time. Urine output
   has been greater than 30 cc/hr since removal of ascitic fluid. Creat
   improved this AM.
   Continues on vasopressin; levophed stopped about an hour ago. CVP still
   less than 10.
   Pleural pressure still appears to be 15 this morning. Oxygenation a bit
   better on higher PEEP.
   24 Hour Events:
 BLOOD CULTURED - At [**2183-9-15**] 12:15 PM
   from aline
 BLOOD CULTURED - At [**2183-9-15**] 12:30 PM
   from R  IJ
 SPUTUM CULTURE - At [**2183-9-15**] 03:00 PM
 PARACENTESIS - At [**2183-9-15**] 06:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Vancomycin - [**2183-9-15**] 07:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-16**] 04:02 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-15**] 08:00 PM
   Other medications:
   Insulin, thyroxiine, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-16**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 77 (63 - 90) bpm
   BP: 114/63(80) {94/50(67) - 122/77(92)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 124.9 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 8 (6 - 13)mmHg
   Bladder pressure: 20 (19 - 21) mmHg
                                Total In:
                                                                  3,318 mL
                                                                  1,117 mL
   PO:
                                TF:
                                                                    192 mL
                                                                    357 mL
   IVF:
                                                                  2,256 mL
                                                                    340 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,262 mL
                                                                    661 mL
   Urine:
                                                                    762 mL
                                                                    471 mL
   NG:
                                                                    260 mL
                                                                     30 mL
   Stool:
   Drains:
                                                                  4,240 mL
                                                                    160 mL
   Balance:
                                                                 -1,944 mL
                                                                    456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/40/103/26/1
   Ve: 9.9 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese, Less firm than yesterday
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   45 K/uL
   267 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   78 mg/dL
   101 mEq/L
   134 mEq/L
   29.8 %
   5.8 K/uL
        [image002.jpg]
                             [**2183-9-15**]  01:42 AM
                             [**2183-9-15**]  02:40 AM
                             [**2183-9-15**]  04:00 AM
                             [**2183-9-15**]  04:05 AM
                             [**2183-9-15**]  02:14 PM
                             [**2183-9-15**]  02:23 PM
                             [**2183-9-15**]  03:45 PM
                             [**2183-9-16**]  01:03 AM
                             [**2183-9-16**]  03:52 AM
                             [**2183-9-16**]  04:08 AM
   WBC
   13.9
   5.8
   Hct
   32.8
   29.8
   Plt
   108
   92
   45
   Cr
   1.6
   1.7
   1.5
   TCO2
   31
   29
   30
   28
   26
   27
   Glucose
   199
   170
   267
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:50/59, Alk Phos / T Bili:59/5.0,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7
   g/dL, LDH:146 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 .H/O CIRRHOSIS OF LIVER, OTHER
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   ANEMIA
   THROMBOCYTOPENIA
   ==============================
   Some encouraging signs in the past 24 hours: urine output increased and
   creat down with tap of ascites and administration of albumin; BP and
   oxygenation somewhat improved. This suggests he he had functional
   abdominal compartment syndrome even though the bladder pressure was
   marginal for that dx.  Continue to support with volume resuscitation as
   needed to keep UO greater than 30 cc/hr. Now off levophed. Continue
   vasopressin for another 24 hours.  O2 saturation a bit better since
   PEEP increased yesterday to match pleural pressure. Ppl still being
   measured at approximately 15. Will try to reduce FIO2 to 0.4 today. CVP
   remains low; hesitant to give more fluid than necessary to sustain UO
   given his low albumin and portal hypertension.
   Hct down slightly; not at transfusion threshold - no evidence of acute
   bleeding; monitor stool guaiac. Platelets low; not at transfusion
   threshold now.
   Continues on antibiotics. E coli growing from bile and ascites.
   Continue lactulose via OG tube. INR mildly prolonged.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-9-16**] 08:33 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   20 Gauge - [**2183-9-15**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2183-09-17 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  abdominal pain, nausea, now respiratory failure
   24 Hour Events:
   [**9-16**]:
   -bile/peritoneal cx: E.coli
   -still on 15 of PEEP due high pleural pressures
   -only on vasopressin-leave on for 24 hours post levophed d/c
   -CVP: [**5-24**]
   -during the day yesterday had difficulty weaning FiO2 to 40%, was
   increased back to 80%, then weaned back down to 50%
   -hyperglycemic to 400s overnight, received additional 20 units humolog
   on top of standing glargine.
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Vancomycin - [**2183-9-15**] 07:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-17**] 04:45 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-16**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-17**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 93 (75 - 101) bpm
   BP: 128/71(91) {103/50(68) - 132/75(95)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.5 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 17 (8 - 18)mmHg
   Bladder pressure: 15 (15 - 20) mmHg
   Total In:
                                                                  2,490 mL
                                                                    513 mL
   PO:
   TF:
                                                                    840 mL
                                                                    243 mL
   IVF:
                                                                    770 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  1,971 mL
                                                                    205 mL
   Urine:
                                                                    941 mL
                                                                    180 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                     25 mL
   Balance:
                                                                    519 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.42/45/61/26/3
   Ve: 9.7 L/min
   PaO2 / FiO2: 102
   Physical Examination
   General: sedated, minimally responsive to commands
   HEENT: Sclera anicteric, MMM
   Neck: supple, no JVD appreciated, difficult to assess given habitus
   Lungs: minimal son[**Name (NI) 1831**] BS at bases.  Good air movement throughout.
   CV: Regular rate and rhythm, normal S1, S2.  No murmurs rub or gallops
   appreciated
   Abdomen:  +BS, obese with a positive fluid wave.  Tympanic over
   midline, dullness to percussion laterally.  No detectable tenderness.
   Somewhat more tense than yesterday.  Cholestostomy tube draining from
   RUQ with brown liquid, more fluid with less clots than yesterday, no
   erythema or induration surrounding tube.
   GU: foley in place w yellow urine
   Ext: warm, well perfused, 1+ DP pulses, no clubbing, cyanosis or edema,
   pneumoboots in place. Asterixis detected on finger squeeze
   Neuro: sedated, responsive to commands
   Skin: Right forearm and hand with dryer skin than elsewhere with
   pigmented skin changes.
   Labs / Radiology
   42 K/uL
   10.2 g/dL
   358 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   88 mg/dL
   100 mEq/L
   134 mEq/L
   30.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2183-9-15**]  02:23 PM
                             [**2183-9-15**]  03:45 PM
                             [**2183-9-16**]  01:03 AM
                             [**2183-9-16**]  03:52 AM
                             [**2183-9-16**]  04:08 AM
                             [**2183-9-16**]  12:48 PM
                             [**2183-9-16**]  03:13 PM
                             [**2183-9-16**]  09:37 PM
                             [**2183-9-17**]  03:45 AM
                             [**2183-9-17**]  04:53 AM
   WBC
   5.8
   6.7
   Hct
   29.8
   30.5
   30.7
   Plt
   45
   42
   Cr
   1.7
   1.5
   1.5
   1.5
   TCO2
   28
   26
   27
   28
   29
   30
   Glucose
   170
   267
   329
   358
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:40/44, Alk Phos / T Bili:70/5.3,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7
   g/dL, LDH:156 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.4 mg/dL
   CXR:  WET READ improved inflation, L > R.  L pleural effusion present.
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy and intubation.
   Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  CXR shows improved
   inflation of lungs, still with L pleural effusion.  Gas good on present
   vent settings, O2 sats 90s.
   - wean FIO2 to 50%.  Continue PEEP of 15.
   - re-check esophageal balloon pressures in PM.  Wean PEEP as tolerated,
   though unlikely given large chest wall.
   - position paient in reverse trendelenburg
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   susceptible to zosyn, resistant to cipro.  WBC trending down.
   Afebrile.  Sputum gram stain now with GPC in pairs and clusters,
   awaiting cultures and speciation
   - Volume resuscitation difficult given liver failure and ascites
   - Was started on vanc, zosyn, cipro pending cultures. d/c
d cipro and
   vanc and continued zosyn given cultures with E. Coli.  Will now
   re-start Vanc pending culture speciation and sensitivities
   - Will trend WBC and lactate.
   - F/u culture data (peritoneal fluid, blood and sputum cultures)
   - levophed d/c
d on [**9-16**].  Continue vasopressin and consider d/c trial
   tomorrow.
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   yellow to brown, consistent output.  KUB was done and was
   non-diagnostic.  No apparent abdominal pain.
   -  Continue zosyn and re-start Vanc as above.
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr was
   increasing, likely due to combination intravascular volume depletion,
   phenylephrine, and abdominal compartment syndrome.  Cr trended down s/p
   tap + fluid bolus with albumin.  Now stable.  K was initially high, but
   has normalized. FeUrea was 5.7% c/w pre-renal etiology from septic
   picture
   - Trend Cr and U/O with goal u/o > 30 cc/hr
   - if Cr increase or u/o decrease, reassess abdominal exam, bladder
   pressure and consider colloids, pressors, or repeat paracentesis
   - Avoid nephrotoxins and renally dose medications.
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation:  Ventricular rates 60s to 80s.  No signs of
   hemodynamic instability
   - restarted home nadolol though not used for BP and HR.  Continue to
   hold nadolol now given HR well-controlled
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR.  AST/ALT
   trending down slightly, T. bili increasing slightly, ascites improved.
   Massive diarrhea on lactulose and erythromycin requiring flexiseal
   placement.  Erythromycin d/c
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   - Holding aldactone for now
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt oriented currently but somewhat somnolent.
   Somnolence may also be due to hypercarbia.  Ammonia 58.
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative. HCT now stable.
   - monitor HCT
   #  Thrombocytopenia:  Plts now 42 from 45
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.
   - Not on CAD/CHF regimen as an outpatient.  Will consider starting
   outpatient regimen once present clinical picture improves.
   #  DMII:  FS well-controlled on
 home insulin regimen while NPO, now
   high 300s-400 with tube feeds.  Standing insulin increased from 20
   yesterday.  Received 20 units glargine per sliding scale.
   - increase standing dose to 36 from 24, change to [**Hospital1 **] dosing with NPH
   18/18.
   - continue insulin SS.
   - Monitor with qid finger sticks.
   - nutrition consult to consider changing tube feeds
   #  Prostate cancer: Stable. On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: OG tube feeds
   Nutren 2.0 (Full) - [**2183-9-16**] 01:38 AM 35 mL/hour
   Glycemic Control:   Insulin standing + sliding scale
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   20 Gauge - [**2183-9-15**] 02:00 PM
   Prophylaxis:
   DVT:  Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  : Communication: - family notified-- note: w
   further changes in status, pls notify daughter first and let her
   contact her mother; pt's wife was getting distraught over news of
   intubation over phone, thinking that he was not going to make it, and
   daughter feels as though she doesn't understand well and would rather
   explain to her mother herself
   [**Name2 (NI) 156**] status: Full code for now (per daughter, HCP)
   Disposition:  ICU

2183-09-17 11:56:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, cholecystitis, acute renal
   faiulre, cirrhosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Levephed stopped yesterday. Vasopressin stopped this AM, but had to be
   restarted after 4 hours because of dropping pressures.
   Continues on FIO2=0.5-0.6 .
   24 Hour Events:
 SPUTUM CULTURE - At [**2183-9-16**] 11:00 AM
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Ciprofloxacin - [**2183-9-15**] 01:45 AM
   Vancomycin - [**2183-9-15**] 07:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-17**] 04:45 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 40 mcg/hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-16**] 07:52 PM
   Other medications:
   Lactulose, chlorhexidine, insulin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-17**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 99 (87 - 113) bpm
   BP: 89/41(56) {89/41(56) - 132/75(95)} mmHg
   RR: 19 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125.5 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 17 (12 - 18)mmHg
   Bladder pressure: 17 (15 - 19) mmHg
   Total In:
                                                                  2,490 mL
                                                                    763 mL
   PO:
   TF:
                                                                    840 mL
                                                                    338 mL
   IVF:
                                                                    770 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,971 mL
                                                                    550 mL
   Urine:
                                                                    941 mL
                                                                    525 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
                                                                    400 mL
                                                                     25 mL
   Balance:
                                                                    519 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 15 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   SpO2: 94%
   ABG: 7.42/42/86.[**Numeric Identifier 253**]/26/2
   Ve: 9.8 L/min
   PaO2 / FiO2: 145
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese, Bowel sounds reduced
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   42 K/uL
   358 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.5 mEq/L
   88 mg/dL
   100 mEq/L
   134 mEq/L
   30.7 %
   6.7 K/uL
        [image002.jpg]
                             [**2183-9-15**]  03:45 PM
                             [**2183-9-16**]  01:03 AM
                             [**2183-9-16**]  03:52 AM
                             [**2183-9-16**]  04:08 AM
                             [**2183-9-16**]  12:48 PM
                             [**2183-9-16**]  03:13 PM
                             [**2183-9-16**]  09:37 PM
                             [**2183-9-17**]  03:45 AM
                             [**2183-9-17**]  04:53 AM
                             [**2183-9-17**]  07:05 AM
   WBC
   5.8
   6.7
   Hct
   29.8
   30.5
   30.7
   Plt
   45
   42
   Cr
   1.7
   1.5
   1.5
   1.5
   TCO2
   26
   27
   28
   29
   30
   28
   Glucose
   170
   267
   329
   358
   Other labs: PT / PTT / INR:19.2/35.6/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:40/44, Alk Phos / T Bili:70/5.3,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.7
   g/dL, LDH:156 IU/L, Ca++:8.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: ETT too high. Improved aeration left lung. Medial right
   basilar density without significant change.
   Microbiology: Sputum: gram positive cocci
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 .H/O CIRRHOSIS OF LIVER, OTHER
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   ANEMIA
   =================
   Hemodynamics improving; now off levophed and tolerated coming off
   vasopressin for several hours. Back on vasopressin now. Bladder
   pressure 17 this AM. Creat stable although urine output down a bit.
   Continue antibiotics. Vanco added for gram positive cocci in sputum.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   Continues on lactulose for cirrhosis.
   Blood sugars elevated. Increase insulin.
   Will need to maintain high PEEP until we are considering weaning from
   ventilator. Try to reduce FIO2 today.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2183-09-18 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cholecystitis and respiratory failure
   24 Hour Events:
   - turned down to 50% FiO2
   - likely paracentesis tomorrow, but will need platelets first
   - urine output picked up overnight, was stable at 40ccs/hr, now
   decreasing
   - started insulin drip for sugars >400 and multiple high sugars not
   easy to control so far today with plan of using it for 24 hours to
   adjust his subq regimen ; holding subq regimen for now
   - bladder pressure could not be measured accurately at night because
   urine leaking out around foley, estimated at 25
   - HR elevated into low 100s-110s, appears as if he may be breaking into
   afib when rate briefly goes into 120s
   - vasopressin turned off with good BPs
   - reported leakage around cholecystostomy tube
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-17**] 05:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-18**] 04:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 40 mcg/hour
   Insulin - Regular - 22 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-17**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-18**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 118 (93 - 120) bpm
   BP: 107/59(73) {89/40(55) - 132/78(93)} mmHg
   RR: 20 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139.2 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 14 (14 - 17)mmHg
   Bladder pressure: 25 (17 - 25) mmHg
   Total In:
                                                                  1,603 mL
                                                                    635 mL
   PO:
   TF:
                                                                    682 mL
                                                                    250 mL
   IVF:
                                                                    857 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    440 mL
   Urine:
                                                                  1,230 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    150 mL
   Balance:
                                                                     23 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 94%
   ABG: 7.43/42/86/26/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   GEN:  minimally responsive to commands, appears comfortable on vent
   HEENT:  MM moist, oropharynx clear
   CHEST:  inspiratory rales at bases, breath sounds distant overall,
   lungs clear at apices
   HEART:  irregularly irregular rhythm, tachycardic, nl S1/S2, no
   murmurs, rubs, or gallops appreciated
   ABD:  tense, distended, tymapnic over hypogastrium
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube with dry dressings in place,
   flushes well, draining yellow-brown fluid. no erythema or edema noted.
   Central line in place, peripherals without swelling or erythema.
   Flexiseal drain in place with good liquid stool drainage.
   Labs / Radiology
   49 K/uL
   10.5 g/dL
   315 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   98 mg/dL
   101 mEq/L
   137 mEq/L
   32.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2183-9-16**]  04:08 AM
                             [**2183-9-16**]  12:48 PM
                             [**2183-9-16**]  03:13 PM
                             [**2183-9-16**]  09:37 PM
                             [**2183-9-17**]  03:45 AM
                             [**2183-9-17**]  04:53 AM
                             [**2183-9-17**]  07:05 AM
                             [**2183-9-17**]  05:34 PM
                             [**2183-9-17**]  10:54 PM
                             [**2183-9-18**]  04:04 AM
   WBC
   6.7
   6.8
   8.2
   Hct
   30.5
   30.7
   30.8
   32.7
   Plt
   42
   40
   49
   Cr
   1.5
   1.5
   1.4
   1.5
   TCO2
   27
   28
   29
   30
   28
   29
   Glucose
   329
   358
   389
   315
   Other labs: PT / PTT / INR:18.9/33.2/1.7, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:37/39, Alk Phos / T Bili:73/6.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.6
   g/dL, LDH:158 IU/L, Ca++:8.3 mg/dL, Mg++:2.9 mg/dL, PO4:2.0 mg/dL
   ABDOMINAL PLAIN FILM:  og tube in place, prominent bowel gas in colon
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy and intubation.
   Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  CXR yesterday showed
   improved inflation of lungs, still with L pleural effusion.  Gas good
   on present vent settings, O2 sats 90s.
   - wean FIO2 to 40%.  Continue PEEP of 15.
   - re-check esophageal balloon pressures in PM.  Wean PEEP as tolerated,
   though unlikely given large chest wall.
   - position paient in reverse trendelenburg
   - will repeat paracentesis today with goal 4-5 L removal
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   susceptible to zosyn, resistant to cipro.  Sputum gram stain now with
   GPC in pairs and clusters, growing GNR in culture.  GNR from repeat
   peritoneal tap showed intermediate sensitivity to zosyn.  WBC stable.
   Fever to 101 this AM.
   - Volume resuscitation difficult given liver failure and ascites
   - Was started on vanc, zosyn, cipro pending cultures. d/c
d cipro and
   vanc and continued zosyn given cultures with E. Coli.  Will now
   re-start Vanc pending culture speciation and sensitivities.
   - D/C zosyn and start meropenem given intermediate sensitivity to zosyn
   - Will trend WBC and fever curve.
   - F/u culture data (peritoneal fluid, blood and sputum cultures)
   - levophed d/c
d on [**9-16**].  Vasopressin d/c
d [**9-18**].
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   yellow to brown, consistent output.  No apparent abdominal pain.
   Drainage around tube, IR consulted
 US done, non-diagnostic due to
   cannot visualize gall bladder.
   -  Continue zosyn and re-start Vanc as above.
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   - paracentesis today may relieve pressure and reduce drainage around
   tube per IR.  Tube most likely in place given continued bilious
   drainage.
   #  Acute on Chronic renal insufficiency:  Unclear baseline; Cr was
   increasing, likely due to combination intravascular volume depletion,
   phenylephrine, and abdominal compartment syndrome.  Cr trended down s/p
   tap + fluid bolus with albumin.  Now stable.  K was initially high, but
   has normalized. FeUrea was 5.7% c/w pre-renal etiology from septic
   picture
   - Trend Cr and U/O with goal u/o > 30 cc/hr
   - Repeat paracentesis, goal 4-5 L removal
   - Avoid nephrotoxins and renally dose medications.
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation:  Ventricular rates > 100-120.  No signs of
   hemodynamic instability.  Tachycardia can be due to fever, acute
   illness, or a-fib with RVR.
   - restarted home nadolol though not used for BP and HR.  Holding
   nadolol now.  Will consider restarting if HR persistently >110.
   - monitor HR in context of paracentesis, abx and hopefully reduction in
   fever
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR.  AST/ALT
   trending down slightly, T. bili increasing slightly, ascites improved.
   Massive diarrhea on lactulose and erythromycin requiring flexiseal
   placement.  Erythromycin d/c
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   - Holding aldactone for now
   - repeat paracentesis
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt oriented currently but somewhat somnolent.
   Somnolence may also be due to hypercarbia.  Ammonia 58.
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative. HCT now stable.
   - monitor HCT
   #  Thrombocytopenia:  Plts now 49 from 42
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.
   - Not on CAD/CHF regimen as an outpatient.  Will consider starting
   outpatient regimen once present clinical picture improves.
   #  DMII:  FS well-controlled on
 home insulin regimen while NPO, now
   high 300s-400 with tube feeds.  Insulin drip started to better titrate
   insulin requirements.  Nutrition consulted and will not change feeds
   given hypoglycemic formula requires more fluid.
   - continue insulin drip and calculate 24 hour needs once stable
   - plan to transition to NPH tomorrow
   - Monitor with qid finger sticks.
   #  Prostate cancer: Stable. On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: OG tube feeds
   Nutren 2.0 (Full) - [**2183-9-16**] 01:38 AM 35 mL/hour
   Glycemic Control:   Insulin drip
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   20 Gauge - [**2183-9-15**] 02:00 PM
   Prophylaxis:
   DVT:  Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  : Communication: - family notified-- note: w
   further changes in status, pls notify daughter first and let her
   contact her mother; pt's wife was getting distraught over news of
   intubation over phone, thinking that he was not going to make it, and
   daughter feels as though she doesn't understand well and would rather
   explain to her mother herself
   [**Name2 (NI) 156**] status: Full code for now (per daughter, HCP)
   Disposition:  ICU
   13:15
   ------ Protected Section ------
   I have seen and examined the patient with MS4 and agree with excellent
   note above. Briefly, 70 yo male with cirrhosis here for septic shock
   secondary to cholecystitis able to maintain bp
s without  pressors.
   Intubated and plan to do para. today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2183-9-18**] 18:50 ------

2183-09-18 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cirrhosis, anemia, coagulopathy,
   acute renal failure, cholecystitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Now off of vasopressin. FIO2 down to 0.5. Bladder pressure up to 25
   (and may be underestimated due to leakage around catheter).
   Started on insulin infusion for persistently high serum glucose.
   Tmax [**Age over 90 **] yesterday. WBC normal.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-17**] 05:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-18**] 04:13 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Insulin - Regular - 22 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-18**] 08:11 AM
   Other medications:
   Lactulose, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-18**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 123 (93 - 123) bpm
   BP: 119/63(79) {89/40(55) - 132/78(93)} mmHg
   RR: 25 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139.2 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 12 (10 - 17)mmHg
   Bladder pressure: 25 (17 - 25) mmHg
   Total In:
                                                                  1,603 mL
                                                                    840 mL
   PO:
   TF:
                                                                    682 mL
                                                                    354 mL
   IVF:
                                                                    857 mL
                                                                    367 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    495 mL
   Urine:
                                                                  1,230 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
                                                                    150 mL
   Balance:
                                                                     23 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 93%
   ABG: 7.43/42/86/26/2
   Ve: 10.8 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , Obese, Increasingly firm abdomen
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   49 K/uL
   315 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.6 mEq/L
   98 mg/dL
   101 mEq/L
   137 mEq/L
   32.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2183-9-16**]  04:08 AM
                             [**2183-9-16**]  12:48 PM
                             [**2183-9-16**]  03:13 PM
                             [**2183-9-16**]  09:37 PM
                             [**2183-9-17**]  03:45 AM
                             [**2183-9-17**]  04:53 AM
                             [**2183-9-17**]  07:05 AM
                             [**2183-9-17**]  05:34 PM
                             [**2183-9-17**]  10:54 PM
                             [**2183-9-18**]  04:04 AM
   WBC
   6.7
   6.8
   8.2
   Hct
   30.5
   30.7
   30.8
   32.7
   Plt
   42
   40
   49
   Cr
   1.5
   1.5
   1.4
   1.5
   TCO2
   27
   28
   29
   30
   28
   29
   Glucose
   329
   358
   389
   315
   Other labs: PT / PTT / INR:18.9/33.2/1.7, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:37/39, Alk Phos / T Bili:73/6.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.6
   g/dL, LDH:158 IU/L, Ca++:8.3 mg/dL, Mg++:2.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 .H/O CIRRHOSIS OF LIVER, OTHER
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   RENAL FAILURE
   ANEMIA
   THROMBOCYTOPENIA
   =======================
   Oxygenation improving. Continue presentl level of PEEP.
   Hemodynamics better; off vasopressors. Will begin to push harder to
   achieve negative fluid balance. Ascites has reaccumulated. Will do
   parancentesis today with administration of albumin. Creat has been
   stable.
   E Coli in ascitic fluid becoming resistant to zosyn. Temp up today.
   Will switch to meropenem.
   Hct and platelet count stable; not at transfusion threshold.
   Continue on insulin infusion today for better glucose control.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-9-18**] 04:16 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2183-09-19 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 5 L paracentesis done, cultures sent
   - received albumin 10g/L and lasix 20 mg IV.  U/O increased from
   30cc/hr to 70cc/hr in response to lasix, maintained u/o > 50cc/hr
   overnight.
   - BPs down to 90s systolic with HR 120s to 130s, so further diuresis
   held
   - ABG in AM showed 7.47/39/89 on 50% FiO2.  FiO2 decreased to 40%
   - in A-fib with ventricular rates to 140s yesterday.  Metoprolol 5mg IV
   x 3 given with some response, HR to the 110s.  BP dropped to 90s
   systolic.  HR increased back to 120s.  Amiodarone given with no
   response in HR / BP.
   - on insulin drip given BS 300s-400s, goal glucose < 150.  Required
   approx 270 units over 24 hours.
   - fever to 102 at midnight
   - abdominal US non-diagnostic yesterday.  IR believes leakage around
   cholecystostomy drain could be [**1-13**] increased intra-abdominal pressure
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-18**] 04:13 AM
   Vancomycin - [**2183-9-18**] 07:49 PM
   Meropenem - [**2183-9-19**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Amiodarone - 1 mg/min
   Insulin - Regular - 22 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-18**] 05:24 PM
   Metoprolol - [**2183-9-18**] 07:49 PM
   Pantoprazole (Protonix) - [**2183-9-18**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-19**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.2
   HR: 122 (109 - 135) bpm
   BP: 99/58(71) {68/43(52) - 139/67(86)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139.2 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 12 (7 - 17)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  2,292 mL
                                                                    401 mL
   PO:
   TF:
                                                                    649 mL
   IVF:
                                                                  1,263 mL
                                                                    401 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,250 mL
                                                                    445 mL
   Urine:
                                                                    800 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
                                                                  5,450 mL
                                                                     85 mL
   Balance:
                                                                 -3,958 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 93%
   ABG: 7.47/39/89.[**Numeric Identifier 299**]/24/4
   Ve: 10.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   GEN:  minimally responsive to commands, appears comfortable on vent,
   warm to touch
   HEENT:  MM moist, oropharynx clear
   CHEST:  inspiratory rales at bases, breath sounds distant overall,
   lungs clear at apices
   HEART:  irregularly irregular rhythm, tachycardic, nl S1/S2, no
   murmurs, rubs, or gallops appreciated
   ABD:  distended, less tense relative to yesterday
s exam, no apparent
   tenderness
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube with dry dressings in place,
   flushes well, draining yellow-brown fluid. no erythema or edema noted.
   Central line in place, peripherals without swelling or erythema.
   Flexiseal drain in place with good liquid stool drainage.
   Labs / Radiology
   39 K/uL
   10.4 g/dL
   203 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   103 mg/dL
   105 mEq/L
   139 mEq/L
   31.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2183-9-17**]  03:45 AM
                             [**2183-9-17**]  04:53 AM
                             [**2183-9-17**]  07:05 AM
                             [**2183-9-17**]  05:34 PM
                             [**2183-9-17**]  10:54 PM
                             [**2183-9-18**]  04:04 AM
                             [**2183-9-18**]  04:22 PM
                             [**2183-9-18**]  08:41 PM
                             [**2183-9-19**]  03:42 AM
                             [**2183-9-19**]  06:05 AM
   WBC
   6.7
   6.8
   8.2
   10.9
   Hct
   30.7
   30.8
   32.7
   31.3
   Plt
   42
   40
   49
   39
   Cr
   1.5
   1.4
   1.5
   1.7
   1.6
   TCO2
   30
   28
   29
   28
   29
   Glucose
   358
   389
   315
   152
   236
   203
   Other labs: PT / PTT / INR:19.8/33.0/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:28/42, Alk Phos / T Bili:69/8.9,
   Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0 %, Mono:10.0 %,
   Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:3.0 mmol/L, Albumin:2.9
   g/dL, LDH:178 IU/L, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, E. Coli sepsis,
   respiratory failure s/p intubation.
   #Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  Gas OK on present
   vent settings with decreased FiO2 to 40%, O2 sats 90s.
   - continue FIO2 at 40%.  Continue PEEP of 15.  lost esophageal balloon
   yesterday.
   - re-check ABG in afternoon.  If looks ok, can start to wean PEEP to
   13.
   - no need to replace esophageal balloon at this point.
   - position paient in reverse trendelenburg
   - follow O2 sats
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   initially susceptible to zosyn, resistant to cipro, however subsequent
   culture showed intermediate sensitivity to zosyn.  Abx changed to
   meropenem.  Sputum gram stain with 4+ GPC in pairs and clusters,
   growing GNR in culture.  Blood cultures negative to date.  Spiked fever
   to [**Age over 90 **] yesterday morning prior to change in abx, spiked fever overnight
   to 102 < 24 hours on meropenem.
   - Continue meropenem, vanc.
   - send blood, urine for g-stain and culture.
   - send stool for C. dif
   - send sputum if adequate secretions for g-stain and culture.
   - Will trend WBC and fever curve.
   - F/u culture data (peritoneal fluid from [**9-18**], blood, urine, and
   sputum cultures)
   - levophed d/c
d on [**9-16**].  Vasopressin d/c
d [**9-18**].
   - check CXR, consider chest/abdomen CT if continues to be febrile in
   PM.
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   yellow to brown, consistent output.  No apparent abdominal pain.
   Drainage around tube, IR consulted
 US done, non-diagnostic due to
   cannot visualize gall bladder.
   -  Continue abx as above
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   - re-check cholecystostomy tube s/p paracentesis, change dressings
   #  Acute on Chronic renal insufficiency:  Initially, FeUrea was 5.7%
   c/w pre-renal etiology from septic picture Unclear baseline; Cr was
   increasing, likely due to combination intravascular volume depletion,
   phenylephrine, and abdominal compartment syndrome.  Cr trended down s/p
   tap + fluid bolus with albumin, stable now s/p repeat paracentesis.  K
   was initially high, but has normalized.  BUN increasing out of
   proportion to stable Cr, now > 100.
   - Trend Cr and U/O with goal u/o > 30 cc/hr
   - nutrition c/s to consider changing to a lower protein diet
   - re-evaluate abdominal exam, bladder pressure if u/o < 30 cc/hr.
   - Avoid nephrotoxins and renally dose medications.
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation/Tachycardia:  Ventricular rates > 120, up to 145
   overnight.  Given metoprolol 5 mg IV x 3 with HR down to 125, SBP down
   to 90s.  HR climbed back to 120s-130s. Amiodarone 5 mg drip started
   with no effect.  Potential etiologies for tachycardia include primary
   arrhythmia (a-fib with RVR), fever in the setting of resistant
   peritoneal or other infection, or intravascular volume depletion.
   - continue amiodarone for now.
   - infectious workup as above.  Will follow HR relative to fever curve
   - 500 ml fluid bolus.  If responsive (HR < 110), will consider further
   fluid bolus recognizing that administration of fluids in this patient
   who readily 3^rd-spaces is potentially problem[**Name (NI) 555**].
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR, stable now.
   AST/ALT trending down slightly, T. bili increasing consistently, direct
   bili 5.4, ascites improved.  Massive diarrhea on lactulose and
   erythromycin requiring flexiseal placement.
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   - Holding aldactone for now
   - repeat paracentesis
   #  Altered mental status:  Family had noted initial change in mental
   status, possibly secondary to sepsis.  On exam here he was oriented,
   but unknown baseline.  Likely has some hepatic encephalopathy,
   particularly because not having bowel movements, and he is dependent on
   lactulose at home.  Pt oriented currently but somewhat somnolent.
   Somnolence may also be due to hypercarbia.  Ammonia 58.
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   # Anemia: Acute drop likely in the setting of fluid resuscitation.
   Patient at high risk for bleeding. DIC labs negative. HCT now stable.
   - monitor HCT
   #  Thrombocytopenia:  Plts now 39 from 49
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:  EKG was without ischemic changes.  No active chest
   pain currently.
   - Not on CAD/CHF regimen as an outpatient.  Will consider starting
   outpatient regimen once present clinical picture improves.
   #  DMII:  FS well-controlled on
 home insulin regimen while NPO, high
   300s-400 with tube feeds, started on insulin drip requiring 270 units /
   24 hours.  Lipase checked and normal (17).  Nutrition consulted and was
   reluctant to change feeds given hypoglycemic formula requires more
   fluid.  Likely etiology of high sugars is resistant infection.
   - continue insulin drip and re-calculate 24 hour needs
   - plan to transition to NPH if reasonable
   - Monitor with qid finger sticks.
   #  Prostate cancer: Stable. On hormonal therapy as an outpatient.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition: OG tube feeds
   Nutren 2.0 (Full) - [**2183-9-16**] 01:38 AM 35 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   Prophylaxis:
   DVT:  Pneumoboots due to  previous HIT antibody
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  : Communication: - family notified-- note: w
   further changes in status, pls notify daughter first and let her
   contact her mother; pt's wife was getting distraught over news of
   intubation over phone, thinking that he was not going to make it, and
   daughter feels as though she doesn't understand well and would rather
   explain to her mother herself
   [**Name2 (NI) 156**] status: Full code for now (per daughter, HCP)
   Disposition:  ICU
   12:24
   ------ Protected Section ------
   Seen and examined patient with ms4 and agree with above findings.
   Briefly,  70 yo septic male with new fever spikes and persistent
   tachycardia. Consider scanning abdomen today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2183-9-19**] 12:42 ------

2183-09-19 11:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, cirrhosis, cholecystitis, anemia,
   thrombocytopenia, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output has increased following paracentesis and administration of
   albumin. Has been tachycardic in afib with mild response to metoprolol.
   Amiodarone started.
   Temp [**Age over 90 **] yesterday. WBC up slightly.
   Remains on vent AC with PEEP 15. FIO2 down to 0.4 this AM.
   Bilirubin rising.
   Hemodynamically stable; no pressors for past 24 hours.
   24 Hour Events:
 ULTRASOUND - At [**2183-9-18**] 11:00 AM
   gb ultrasound
 PARACENTESIS - At [**2183-9-18**] 03:37 PM
 FEVER - 102.0
F - [**2183-9-19**] 12:44 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-18**] 04:13 AM
   Vancomycin - [**2183-9-19**] 08:02 AM
   Meropenem - [**2183-9-19**] 10:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 23 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-9-18**] 05:24 PM
   Metoprolol - [**2183-9-18**] 07:49 PM
   Pantoprazole (Protonix) - [**2183-9-19**] 08:03 AM
   Midazolam (Versed) - [**2183-9-19**] 08:07 AM
   Other medications:
   thyroxine, lactulose, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-19**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.8
   HR: 133 (109 - 135) bpm
   BP: 91/57(68) {68/43(52) - 139/67(86)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 139.2 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 12 (7 - 15)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  2,292 mL
                                                                  1,255 mL
   PO:
   TF:
                                                                    649 mL
   IVF:
                                                                  1,263 mL
                                                                    965 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  6,250 mL
                                                                    590 mL
   Urine:
                                                                    800 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
                                                                  5,450 mL
                                                                     85 mL
   Balance:
                                                                 -3,958 mL
                                                                    665 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 75 cmH2O/mL
   SpO2: 93%
   ABG: 7.46/37/69/24/2
   Ve: 10 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   39 K/uL
   203 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   103 mg/dL
   105 mEq/L
   139 mEq/L
   31.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2183-9-17**]  04:53 AM
                             [**2183-9-17**]  07:05 AM
                             [**2183-9-17**]  05:34 PM
                             [**2183-9-17**]  10:54 PM
                             [**2183-9-18**]  04:04 AM
                             [**2183-9-18**]  04:22 PM
                             [**2183-9-18**]  08:41 PM
                             [**2183-9-19**]  03:42 AM
                             [**2183-9-19**]  06:05 AM
                             [**2183-9-19**]  09:20 AM
   WBC
   6.8
   8.2
   10.9
   Hct
   30.8
   32.7
   31.3
   Plt
   40
   49
   39
   Cr
   1.4
   1.5
   1.7
   1.6
   TCO2
   30
   28
   29
   28
   29
   27
   Glucose
   389
   315
   152
   236
   203
   Other labs: PT / PTT / INR:19.8/33.0/1.8, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:28/42, Alk Phos / T Bili:69/8.9,
   Amylase / Lipase:/17, Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0
   %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:2.6
   mmol/L, Albumin:2.9 g/dL, LDH:178 IU/L, Ca++:8.4 mg/dL, Mg++:3.1 mg/dL,
   PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
 CHOLECYSTITIS, CALCULOUS
 .H/O CIRRHOSIS OF LIVER, OTHER
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 .H/O ASCITES
   ATRIAL FIBRILLATION
   =============================
   Oxygenation improved. Down to FIO2 0.4; will keep at present level of
   PEEP for another 24 hours. If oxygenation stable, would then decrease
   PEEP to 13.
   Hemodynamics have been stable with good urine output, which is
   encouraging. However, patient has persistent fever now and WBC up
   mildly. [**Month (only) 8**] be related to the fact that the bacteria was only
   intermittently sensitive to Zosyn. Was changed to meropenem yesterday.
   Has diarrhea on lactulose; check for C. Diff. Lines look good. Would
   get additional blood cultures.
   Continues on lactulose for his cirrhosis. Renal function is stable
   although BUN rising. [**Month (only) 8**] be related to catabolic state with low GFR.
   General perfusion is improved; urine output good.
   Being loaded with amiodarone for afib/tachycardia.
   ICU Care
   Nutrition: tube feedings
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2183-09-20 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2183-9-20**] 01:02 AM
   rate appeared in sinus rhythm with questionable pwaves. 12 lead ekg
   revealed afib.
   - A.Fib with RVR o/n, lopressor IV x3 decreased HR but dropped SBP to
   70s
   - Amio loaded and now on infusion, infusion continued o/n b/c patient
   remained tachycardic, repeat EKG showed pt was in A. flutter so less
   likely to break, also pt became hypotensive with decreased HR
   - tried 500cc fluid bolus, but no decrease in HR, tried lasix b/c
   unsure if patient is possibly in heart failure, has pulmonary edema on
   CXR, gave 40mg IV-->put out 60cc's, gave 80mg IV--> unclear urine
   output b/c had leaked around foley site
   - continued fever, currently attributing it to less than 24 hours on
   meropenem, but may need repeat imaging
   - continues on insulin gtt--> difficult to assess 24 hours insulin
   needs, insulin requirement has decreased, looks like the pump may not
   have been working properly and since that change, needs have decreased
   from 24units per hour to 4units per hour
   - Pt. with decreased urine output overnight, inspite of lasix, but
   renal function improving, his foley was leaking onto the bed.
   - Had a few episodes of desaturation, FiO2 increased back to 50%
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-9-18**] 04:13 AM
   Meropenem - [**2183-9-19**] 06:52 PM
   Vancomycin - [**2183-9-19**] 08:12 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 22 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2183-9-19**] 08:07 AM
   Fentanyl - [**2183-9-19**] 02:20 PM
   Pantoprazole (Protonix) - [**2183-9-19**] 08:12 PM
   Furosemide (Lasix) - [**2183-9-19**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-20**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.5
C (99.5
   HR: 103 (99 - 136) bpm
   BP: 106/61(76) {90/55(54) - 122/72(85)} mmHg
   RR: 22 (10 - 25) insp/min
   SpO2: 94%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 139.2 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 14 (12 - 19)mmHg
   Bladder pressure: 14 (14 - 14) mmHg
   Total In:
                                                                  4,568 mL
                                                                    794 mL
   PO:
   TF:
                                                                    612 mL
                                                                    238 mL
   IVF:
                                                                  2,866 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                  1,549 mL
                                                                    767 mL
   Urine:
                                                                  1,074 mL
                                                                    167 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
                                                                    475 mL
   Balance:
                                                                  3,019 mL
                                                                     27 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/38/76.[**Numeric Identifier 299**]/21/-2
   Ve: 11.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GEN:  not  responsive to commands, appears comfortable on vent at this
   time
   HEENT:  MM moist, oropharynx clear
   CHEST:  inspiratory rales at bases, anterior chest clear
   HEART:  irregularly irregular rhythm, ventric rate 100s, no murmurs
   appreciated
   ABD:  distended, but improved from previous exam, soft
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube with dry dressings in place,
   flushes well, draining yellow-brown fluid. no erythema or edema noted.
   Central line in place, peripherals without swelling or erythema.
   Flexiseal drain in place with good liquid stool drainage looking
   [**Male First Name (un) 5190**]-colored.
   Labs / Radiology
   58 K/uL
   11.4 g/dL
   250 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.5 mEq/L
   109 mg/dL
   107 mEq/L
   141 mEq/L
   34.7 %
   16.8 K/uL
        [image002.jpg]
                             [**2183-9-18**]  08:41 PM
                             [**2183-9-19**]  03:42 AM
                             [**2183-9-19**]  06:05 AM
                             [**2183-9-19**]  09:20 AM
                             [**2183-9-19**]  06:28 PM
                             [**2183-9-19**]  09:51 PM
                             [**2183-9-19**]  11:42 PM
                            [**2183-9-20**]  12:30 AM
                            [**2183-9-20**]  03:20 AM
                            [**2183-9-20**]  05:19 AM
   WBC
   10.9
   16.8
   Hct
   31.3
   34.7
   Plt
   39
   58
   Cr
   1.7
   1.6
   1.2
   TCO2
   29
   27
   27
   23
   22
   22
   23
   Glucose
   [**Telephone/Fax (3) 9299**]
   Other labs: PT / PTT / INR:23.0/33.9/2.2, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:25/51, Alk Phos / T Bili:76/14.6,
   Amylase / Lipase:/17, Differential-Neuts:73.0 %, Band:12.0 %, Lymph:2.0
   %, Mono:10.0 %, Eos:0.0 %, Fibrinogen:335 mg/dL, Lactic Acid:2.6
   mmol/L, Albumin:2.8 g/dL, LDH:211 IU/L, Ca++:8.2 mg/dL, Mg++:3.3 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, E. Coli sepsis,
   respiratory failure s/p intubation.
   #Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  present vent
   settings with FiO2 to 50%, O2 sats 90s.
   - Decrease PEEP of 15 to 12.
   - position paient in reverse trendelenburg
   - follow O2 sats
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   initially susceptible to zosyn, resistant to cipro, however subsequent
   culture showed intermediate sensitivity to zosyn.  Abx changed to
   meropenem.  Sputum gram stain with 4+ GPC in pairs and clusters,
   growing GNR in culture.  Blood cultures negative to date.  In last 24
   hours, has spiked to 100.1 while on meropenem.  Not on pressors
   - Continue meropenem, vanc.
   - Chest and Abd CT if pt stable enough to go to radiology
   - f/u blood, urine for g-stain and culture. - f/u stool for C. dif
   - send sputum if adequate secretions for g-stain and culture.
   - cont trend WBC and fever curve.
   - F/u culture data (peritoneal fluid from [**9-18**], blood, urine, and
   sputum cultures)
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   yellow to brown, consistent output.  IR was asked about drainage around
   tube insertion site two days ago
 US done, non-diagnostic due to
   cannot visualize gall bladder.  T Bili elevated significantly
   -  Continue abx as above
   - ask IR about
   - Abd CT if pt stable to see about placement of cholecystostomy tube,
   if it
s still in place
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   #  Acute on Chronic renal insufficiency:   Cr improved to 1.2 today.
   Initially, FeUrea was 5.7% c/w pre-renal etiology from septic picture
   Unclear baseline; Cr was increasing, likely due to combination
   intravascular volume depletion, phenylephrine, and abdominal
   compartment syndrome.  Cr trended down s/p tap + fluid bolus with
   albumin, stable now s/p repeat paracentesis.  K was initially high, but
   has normalized.  BUN increasing out of proportion to stable Cr, now >
   100.
   - Trend Cr and U/O with goal u/o > 30 cc/hr
   - re-evaluate abdominal exam, bladder pressure if u/o < 30 cc/hr.
   - Avoid nephrotoxins and renally dose medications.
   - Consider midorine and octreotide if hepatorenal becomes concerning.
   # Atrial Fibrillation/Tachycardia:  Ventricular rates > 120, up to 145
   overnight.  Given metoprolol 5 mg IV x 3 with HR down to 125, SBP down
   to 90s.  HR climbed back to 120s-130s. Amiodarone 5 mg drip started
   with no effect.  Potential etiologies for tachycardia include primary
   arrhythmia (a-fib with RVR), fever in the setting of resistant
   peritoneal or other infection, or intravascular volume depletion.
   - continue amiodarone for now
 try to transition to PO amiodarone
   - infectious workup as above.  Will follow HR relative to fever curve
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR,  now at 2.2.
   AST/ALT stable, T. bili increased to 14.  Was tapped 5L peritoneal
   ascites two days ago.
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   #  Altered mental status:  Delirium in setting of infection, in
   addition to sedation for mechanical ventilation, in addition to hepatic
   encephalopathy.  dependent on lactulose at home.  Was somnolent prior
   to intubation as well, which may have been due to hypercarbia and
   hepatic encephalopathy.
   - Continue lactulose for probability of some hepatic encephalopathy
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   # Anemia:  MCV elevated.  HCT stable.
   - monitor HCT
   #  Thrombocytopenia:  Plts now 58, stable
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:   may be in acute exacerbation of heart failure in
   addition to the pleural effusion
   - restart home aldactone
   - give lasix IV
   #  DMII:  Continues on insulin drip  ; lability of sugars may be
   related to another source of infection
   - ask nutrition about diabetic tube feeds
   - continue on insulin drip because sugars so labile
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-9-20**] 05:19 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   Prophylaxis:
   DVT: pneumoboots (hx of HIT antibody)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course and
   relevant labs, and was present for the key portion of the services
   provided.  I have reviewed the note by Dr [**Last Name (STitle) 9313**] and agree with her
   findings and plan of care.  The patient is multiply ill with sepsis,
   liver failure, resp failure, renal insufficiency with oliguria, atrial
   fibrillation/flutter with RVR, DM  with hyperglycemia, pleural
   effusion, and obtundation from hepatic encephalopathy &/or sedation for
   his being on the vent.
   The concern today is that he has new fever and leukocytosis and has
   decreased cholecystostomy tube output along with rising bili.  Once we
   can get him stable from afib/flutter standpoint (HR at times 130) he
   should go for abd CT to assess status of biliary drainage.  Meanwhile
   we
ll stop Fentanyl, continue lactulose, and follow mental status.  His
   ET tube will be advanced 3cm to prevent inadvertent self extubation,
   his amio load will be continued along with broad spectrum antibiotics
   ([**Last Name (un) 350**] and Vanco).  The goal will be to keep him hydrated but not wet
   (eg. CVP around 9) as we try lasix drip for his oliguria.
   Given his multiple and severe comorbidities, his prognosis is very
   grave, in my estimation. He is currently a full code but we should
   continue to address this issue with his family.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   50 spent in the care of this critically ill patient.
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2183-9-20**] 15:23 ------

2183-09-21 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT abd/chest--> cancelled for now bc pt not stable enough
   - decr PEEP 15-->12--> 10
   - transition from IV to PO amiodarone--> switched back to IV amiodarone
   around 1:30pm because HRs elevated to
   - lasix gtt started at 3mg/hr --> putting out 30cc/hr; stopped this AM
   due to low bp
   - lactate elevated to 4.5 in pm, but going back down
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-20**] 07:34 PM
   Meropenem - [**2183-9-21**] 02:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 137 (104 - 138) bpm
   BP: 90/60(70) {76/51(60) - 112/64(76)} mmHg
   RR: 26 (21 - 27) insp/min
   SpO2: 94%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 24 (15 - 24)mmHg
   Total In:
                                                                  3,188 mL
                                                                    716 mL
   PO:
                                                                    800 mL
   TF:
                                                                    849 mL
                                                                    255 mL
   IVF:
                                                                  1,379 mL
                                                                    461 mL
   Blood products:
   Total out:
                                                                  1,145 mL
                                                                     60 mL
   Urine:
                                                                    345 mL
                                                                     40 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
                                                                    200 mL
                                                                     20 mL
   Balance:
                                                                  2,043 mL
                                                                    656 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/24/77.[**Numeric Identifier 253**]/22/-5
   Ve: 13 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN:  not  responsive to commands, appears comfortable on vent at this
   time
   HEENT:  MM moist, oropharynx clear
   CHEST:  inspiratory rales at bases, anterior chest clear
   HEART:  irregularly irregular rhythm, ventric rate 100s, no murmurs
   appreciated
   ABD:  distended, but improved from previous exam, soft
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube with dry dressings in place,
   flushes well, draining yellow-brown fluid. no erythema or edema noted.
   Central line in place, peripherals without swelling or erythema.
   Flexiseal drain in place with good liquid stool drainage looking
   [**Male First Name (un) 5190**]-colored.
   Labs / Radiology
   66 K/uL
   11.2 g/dL
   92 mg/dL
   2.6 mg/dL
   22 mEq/L
   4.4 mEq/L
   125 mg/dL
   107 mEq/L
   141 mEq/L
   34.1 %
   20.4 K/uL
        [image002.jpg]
   BUN: [**9-20**]: 116;
                             [**2183-9-19**]  09:20 AM
                             [**2183-9-19**]  06:28 PM
                             [**2183-9-19**]  09:51 PM
                             [**2183-9-19**]  11:42 PM
                            [**2183-9-20**]  12:30 AM
                            [**2183-9-20**]  03:20 AM
                            [**2183-9-20**]  05:19 AM
                            [**2183-9-20**]  03:39 PM
                            [**2183-9-21**]  03:47 AM
                            [**2183-9-21**]  04:24 AM
   WBC
   16.8
   20.4
   Hct
   34.7
   34.1
   Plt
   58
   66
   Cr
   1.2
   2.2
   2.6
   TCO2
   27
   27
   23
   22
   22
   23
   17
   Glucose
   250
   198
   92
   Other labs: PT / PTT / INR:27.9/37.8/2.7 (2.2), CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:29/74(51), Alk Phos / T Bili:73/14.3
   (13.9), Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %,
   Lymph:5.4 %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:335 mg/dL, Lactic
   Acid:2.3 mmol/L (4.5), Albumin:2.8 g/dL, LDH:192 IU/L, Ca++:8.1 mg/dL,
   Mg++:3.4 mg/dL, PO4:3.7 mg/dL, Free Ca: 0.88
   Micro: No new culture data
   Radiology: None
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, ESBL E. Coli
   sepsis, renal insufficiency, hepatic failure, and respiratory failure
   s/p intubation all c/b afib with rvr.
   #Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  present vent
   settings with FiO2 to 50%, O2 sats 90s.
   - Increase PEEP to 12 due to hypoxia upon movement.
   - position paient in reverse trendelenburg
   - follow O2 sats and ABG
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   initially susceptible to zosyn, resistant to cipro, however subsequent
   culture showed intermediate sensitivity to zosyn.  Abx changed to
   meropenem.  Sputum gram stain with 4+ GPC in pairs and clusters,
   growing GNR in culture.  Blood cultures negative to date.  In last 24
   hours, has had low grade fevers, with increasing wbc count.  Not on
   pressors
   - Continue meropenem, vanc. (Day 1 of meropenem: [**9-18**]; Day 1 of Vanc:
   [**9-17**])
   - Chest and Abd CT if pt stable enough to go to radiology
   - f/u blood, urine for g-stain and culture. - f/u stool for C. dif
   - send sputum if adequate secretions for g-stain and culture.
   - cont trend WBC and fever curve.
   - F/u culture data (peritoneal fluid from [**9-18**], blood, urine, and
   sputum cultures)
   - Re-pan culture him today as he is on very broad coverage with an
   increasing wbc.
   - Vanc trough today
   #  Acute on Chronic renal insufficiency:   Decreased UOP in past [**5-18**]
   hours. Cr 2.6 today from 2.2 and increasing BUN.  Unclear baseline; All
   likely due to combination of intravascular volume depletion, decreased
   CO from Afib with RVR,  phenylephrine, and abdominal compartment
   syndrome.  K was initially high, but has normalized.
   - Renal following and does not feel he is a candidate at this point for
   CVVH
   - Urine lytes in setting of new increase in Creatinine from prior
   - Consider low volume fluid boluses to pick up UOP.
   - Trend CVP, Cr and U/O with goal u/o > 30 cc/hr; Re-check labs q 6
   hours for now.
   - re-evaluate abdominal exam, bladder pressure if u/o < 30 cc/hr.
   - Avoid nephrotoxins and renally dose medications.
   - Starting midorine, albumin and octreotide to empirically treat for
   hepatorenal syndrome.
   - PM lytes
   # Atrial Fibrillation/Flutter//Tachycardia:. Amiodarone 5 mg drip
   continuing with minimal effect.  Potential etiologies for tachycardia
   include primary arrhythmia (a-fib with RVR), fever in the setting of
   resistant peritoneal or other infection, or intravascular volume
   depletion.
   - continue amiodarone gtt for now; patient did not tolerate attempts to
   po form as tachycardia increased significantly
   - Consider daily EKG
s as demand of heart in this setting deams patient
   at high risk for ischemia/infarction.
   - infectious workup as above.  Will follow HR relative to fever curve
   - consider levothyroxine increased serum levels in setting of liver and
   renal failure; will f/u on clearance of this drug
   - if tachycardia does not decrease with fluid boluses, consider asking
   cards if amio should be stopped, or if dilt or metoprolol should be
   started in this complicated hemodynamic picture.
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR,  now at 2.7.
   AST/ALT stable, T. bili increased to 14.3 today.  Was tapped 5L
   peritoneal ascites Thursday; ([**9-18**]).
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   #  Altered mental status:  Delirium in setting of infection, in
   addition to sedation for mechanical ventilation likely still in system
   as cannot clear drug effectively, in addition to hepatic
   encephalopathy.
   - Continue to hold fentanyl and versed as patient can tolerate
   - Continue lactulose for probability of some hepatic encephalopathy
   - Consider HD in setting of very high BUN levels as patient
s mental
   status cannot be addressed in setting of sedation
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   - If patient can tolerate CT abdomen today, consider performing CT head
   as well to rule out any acute process
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Output
   yellow to brown, consistent output.  IR was asked about drainage around
   tube insertion site two days ago
 US done, non-diagnostic due to
   cannot visualize gall bladder.  T Bili elevated significantly
   -  Continue abx as above
   - Abd CT if pt stable to see about placement of cholecystostomy tube,
   if it
s still in place
   -  PPI [**Hospital1 **]
   -  Zofran prn for nausea
   -  If significant pain, will give prn dilaudid.
   # Anemia:  MCV elevated.  HCT stable.
   - monitor daily HCTs
   #  Thrombocytopenia:  Plts now increased to 66 today, stable
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:   may be in acute exacerbation of heart failure in
   addition to the pleural effusion
   - restart home aldactone
   - give lasix IV with holding parameters for bp.
   #  DMII:  Continues on insulin drip  ; lability of sugars may be
   related to another source of infection
   - ask nutrition about diabetic tube feeds
   - continue on insulin drip until adequate control of BS can be reached.
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-9-20**] 05:19 AM 35 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   Prophylaxis:
   DVT: pneumoboots (hx of HIT antibody)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code pending family meeting today
   Disposition: ICU
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital events, and
   also his labs and imaging. I was also present for the key portions of
   the services provided and I have reviewed Dr [**Last Name (STitle) 9271**]
s note above,
   agreeing with her findings and plan of care.
   The patient continues with multiorgan system failure
 liver, lung,
   renal, and possibly neuro, all in the face of evidence of worsening
   infection and rising WBC.  The etiology of his WBC is not clear and
   we
d like to get CT of lungs and abd but he
s not been hemodynamically
   stable enough for this.  He remains on Vanco and Zosyn for biliary
   sepsis as we await another set of broad based cultures.  His CXR is
   worsening slowly, but he
s without sputum. I fear this is gradually
   developing lung injury as by other criteria he doesn
t seem that wet.
   We
ve discussed his case at length with renal consultants and we will
   try IVF and midodrine to Rx/prevent hepatorenal, but for now no plans
   for dialysis.
   I had a frank talk  today with the patient
s daughter, [**Name (NI) 284**], about pt
   current status, grim prognosis, and the medical advisability, in my
   estimation, of changing his code status to DNR. She will talk this over
   with her mother and other family members and get back to us.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   [**MD Number(2) 9348**] spent in the care of this critically ill pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2183-9-21**] 20:32 ------

2183-09-22 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  abd pain/nausea, cholecystitis s/p cholecystomy, resp
   failure s/p intubation
   24 Hour Events:
   - Patient with significant leakage of peritoneal fluid around
   cholecystostomy, dressings changed, tube fell out and was noted to be
   in only approx 2 inches.  IR was called, US was done and showed
   distended gall bladder.   Reluctant to replace tube with INR >3 and
   PLTs 60.  CT was done and shows distended gall bladder.
   - Renal following for worsening BUN and Cr
   - not on sedation, not responsive to verbal commands
   - appears to be in Aflutter rather than Afib, which may be why amio
   drip not working initially, then throughout day HR decreased to the
   90's.
   -  Desatted twice in AM to 80s--> first time PEEP increased from 10 to
   12 ; second time increased PEEP to 14 and increased FiO2 from 50% to
   60%; eventually weaned back down to PEEP 14 and FiO2 to 50%
   -  gave 1 liter bolus of NS b/c likely intravascular depleted, and did
   not increase uop; gave another 500 cc bolus b/c bp's were going down
   and did not help much. Started levophed.
   - Started octreotide and albumin for possible hepatorenal failure; did
   not start midodrine b/c had to be placed back on levophed for low maps
   - goals of care: family meeting and daughter will discuss with rest of
   family whether to make patient DNR or not. He is currently full code.
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-21**] 08:04 AM
   Meropenem - [**2183-9-21**] 12:48 PM
   Infusions:
   Insulin - Regular - 14 units/hour
   Amiodarone - 0.5 mg/min
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-21**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-22**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 77 (77 - 137) bpm
   BP: 107/54(69) {74/46(56) - 163/71(101)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 22 (11 - 48)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
                                Total In:
                                                                  4,185 mL
                                                                  2,498 mL
   PO:
                                TF:
                                                                    846 mL
                                                                     75 mL
   IVF:
                                                                  3,139 mL
                                                                    458 mL
   Blood products:
                                                                    200 mL
                                                                  1,965 mL
   Total out:
                                                                  1,535 mL
                                                                    855 mL
   Urine:
                                                                    265 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
                                                                    370 mL
                                                                    800 mL
   Balance:
                                                                  2,650 mL
                                                                  1,643 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/50/85.[**Numeric Identifier 299**]/23/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN:  not  responsive to commands, appears comfortable on vent at this
   time
   HEENT:  MM dry, oropharynx clear
   CHEST:  inspiratory rales at bases, anterior chest clear
   HEART:  RRR, ventric rate 70s, 2-3/6 systolic murmur heard best at
   RUSB, radiates to R carotid, crescendo/decrescendo pattern noted,
   although intermittently obscures S1/S2.
   ABD:  distended, but improved from previous exam, soft
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube absent with colostomy bag in
   place, draining yellow fluid, no erythema noted around tube.   Central
   line in place, peripherals without swelling or erythema.  Flexiseal
   drain in place with good liquid stool drainage.
   Labs / Radiology
   62 K/uL
   8.4 g/dL
   128 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   140 mg/dL
   105 mEq/L
   141 mEq/L
   25.3 %
   15.2 K/uL
        [image002.jpg]
                            [**2183-9-20**]  12:30 AM
                            [**2183-9-20**]  03:20 AM
                            [**2183-9-20**]  05:19 AM
                            [**2183-9-20**]  03:39 PM
                            [**2183-9-21**]  03:47 AM
                            [**2183-9-21**]  04:24 AM
                            [**2183-9-21**]  10:29 AM
                            [**2183-9-21**]  05:01 PM
                            [**2183-9-22**]  05:25 AM
                            [**2183-9-22**]  05:49 AM
   WBC
   16.8
   20.4
   21.4
   15.2
   Hct
   34.7
   34.1
   32.3
   25.3
   Plt
   58
   66
   77
   62
   Cr
   1.2
   2.2
   2.6
   2.8
   2.7
   TCO2
   22
   23
   17
   22
   28
   Glucose
   [**Telephone/Fax (2) 9355**]4
   128
   Other labs: PT / PTT / INR:22.6/41.0/2.1, CK / CKMB /
   Troponin-T:29/4/0.01, [**Telephone/Fax (2) **] / AST:33/103, Alk Phos / T Bili:61/14.0,
   Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %, Lymph:5.4
   %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:335 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:215 IU/L, Ca++:8.6 mg/dL, Mg++:3.4 mg/dL, PO4:6.0
   mg/dL
   US:  distended gall bladder
   CT:  distended gall bladder, bilateral atelectasis in lung bases, L >
   R, small L pleural effusion.
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, ESBL E. Coli
   sepsis, renal insufficiency, hepatic failure, and respiratory failure
   s/p intubation all c/b afib with rvr.
   #Hypoxic Respiratory Failure: s/p Intubation [**9-14**].  present vent
   settings with FiO2 50%, RR 20, PEEP 14. O2 sats mid 90s.
   - Check ABG and wean FIO2 and PEEP as tolerated
   - position paient in reverse trendelenburg
   - follow O2 sats and ABG
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, now speciated to E. Coli
   initially susceptible to zosyn, resistant to cipro, however subsequent
   culture showed intermediate sensitivity to zosyn.  Abx changed to
   meropenem [**9-19**].  Sputum gram stain with 4+ GPC in pairs and clusters,
   growing GNR in culture.  Urine cultures with yeast and GNR.  Blood
   cultures negative to date.  Afebrile now, WBC stable.
   - Continue meropenem, vanc. (Day 1 of meropenem: [**9-18**]; Day 1 of Vanc:
   [**9-17**])
   - cont trend WBC and fever curve.
   - F/u culture data (peritoneal fluid from [**9-18**], blood, urine, and
   sputum cultures)
   - check Vanc trough today
   #  Acute on Chronic renal insufficiency:   Decreased UOP in past [**5-18**]
   hours. Cr 2.7 today and increasing BUN.  likely due to combination of
   intravascular volume depletion, abdominal compartment syndrome,
   pressors, ? hepatorenal syndrome.
   - Renal following and does not feel he is a candidate at this point for
   CVVH
   - Urine lytes Urea nitrogen363, Cr 173, Na < 1, osmolality 369
   - receiving FFP, which should expand intravascular volume and help with
   pre-renal component
   - will wean levophed as tolerated by BP
   - started octreotide and albumin for ? hepatorenal syndrome, no
   midodrine for now given already on pressors.
   - Trend CVP, Cr and U/O with goal u/o > 30 cc/hr; Re-check labs q 6
   hours for now.
   - re-evaluate abdominal exam, bladder pressure if u/o < 30 cc/hr.
   - Avoid nephrotoxins and renally dose medications.
   - PM lytes
   # Atrial Fibrillation/Flutter//Tachycardia:. Amiodarone 5 mg drip
   continuing, HR now 70s.  Potential etiologies for tachycardia include
   primary arrhythmia (a-fib with RVR), fever in the setting of resistant
   peritoneal or other infection, or intravascular volume depletion.
   - continue amiodarone gtt for now; patient did not tolerate attempts to
   po form as tachycardia increased significantly
   - Consider daily EKG
s as demand of heart in this setting deams patient
   at high risk for ischemia/infarction.
   - infectious workup/treatment as above.  Will follow HR relative to
   fever curve
   - consider levothyroxine increased serum levels in setting of liver and
   renal failure; will f/u on clearance of this drug
   - if tachycardia does not decrease with fluid boluses, consider asking
   cards if amio should be stopped, or if dilt or metoprolol should be
   started in this complicated hemodynamic picture.
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR,  now at 2.1.
   AST increasing relative to [**Name2 (NI) **], likely all part of overall septic
   picture. T. bili increased over last several days, to 14. today.  Was
   tapped 5L peritoneal ascites Thursday; ([**9-18**]).
   - continue lactulose, goal [**3-16**] BMs per day
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   #  Altered mental status:  Delirium in setting of infection, in
   addition to sedation for mechanical ventilation likely still in system
   as cannot clear drug effectively, in addition to hepatic
   encephalopathy.
   - Continue to hold fentanyl and versed as patient can tolerate
   - Continue lactulose for probability of some hepatic encephalopathy
   - Consider HD in setting of very high BUN levels although renal states
   that he is not a candidate, patient
s mental status cannot be addressed
   in setting of sedation
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   - If patient can tolerate CT abdomen today, consider performing CT head
   as well to rule out any acute process
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Tube fell
   out yesterday in context of dressing change.  Colostomy bag placed,
   output yellow clear fluid.  US and CT showed distended gall bladder.  T
   Bili elevated significantly
   - Continue abx as above
   - FFP to correct INR
 placement of cholecystostomy tube
   - PPI [**Hospital1 **]
   - Zofran prn for nausea
   - If significant pain, will give prn dilaudid.
   # Anemia:  MCV elevated.  HCT down today, likely dilutional from FFP.
   - monitor daily HCTs
   #  Thrombocytopenia:  Plts 62 today, stable
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:   may be in acute exacerbation of heart failure in
   addition to the pleural effusion.  New murmur today as described
   above.  ? AS [**Hospital1 1327**] MR [**First Name (Titles) 1327**] [**Last Name (Titles) **] flow murmur..
   - restarted home aldactone
   - TTE
   - will check EKG although very unlikely to be related to new ischemic
   event.
   #  DMII:  Continues on insulin drip  ; lability of sugars may be
   related to another source of infection
   - continue on insulin drip until adequate control of BS can be reached.
   - touch base with nutrition re any options for changing tube feeds in
   this patient with increasing BUN and hyperglycemia
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2183-9-20**] 05:19 AM 35 mL/hour
   Glycemic Control:  Insulin gtt
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   Prophylaxis:
   DVT: pneumoboots (hx of HIT antibody)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code pending family meeting today
   Disposition: ICU
   10:10
   ------ Protected Section ------
   Seen and examined patient with MS4 and agree with above findings.
   Briefly, this is a 70 yo male with NASH cirrhosis s/p cholecystitis
   leading to septic shock, c/b respiratory, liver, and renal failure.
   Current issues are the removal of his IR drain. Hopeful it will be
   replaced today by IR. Currently giving FFP to decrease INR. Renal
   following and [**Male First Name (un) **]
t believe he is a transplant candidate. Vent settings
   have remained unchanged. He is critically ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 9271**], MD
   on:[**2183-9-22**] 10:22 ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course, labs,
   and imaging, and I was present for the key portions of the services
   provided.  I have also reviewed HMS IV [**Location (un) 9366**]
s and Dr [**Last Name (STitle) 9271**]
s note
   above and agree with their findings and plan of care.  We now believe
   we know why Mr [**Known lastname **] was acting more infected over the past 2 days
   his cholecystostomy tube was likely migrating out of the gallbladder
   and and has now fallen out.  On CT scan his GB is distended and we
   been in contact with IR to see if by US or CT guidance another drainage
   catheter could be inserted.  We
ve been giving FFP in an effort to
   improve his coagulopathy for such a procedure.  Meanwhile he remains on
   Vanc and Meropenem and for today at least his WBC is down to 15K and
   he
s not metabolically acidemic.
   From a resp standpoint his CT shows RLL and LLL atelectasis, though one
   cannot also rule out pneumonitis there too.  He has only a small left
   effusion.  Above that, lungs are clear, accounting for his reasonable
   oxygenation.
   His cirrhosis remains unchanged with T Bili stable at 14.
   His renal failure is also unimproved, with BUN now up to 140 and creat
   up to 2.7.  We
re treating him for volume depletion with FFP and CVP is
tanked
 at 20.  We
re also treating him for HRSyndrome with
   Octreotide, and renal is following him too.
   He remains obtunded off of all sedatives, no doubt due to liver and
   renal failure.
   We had a long family meeting today where we discussed the medically
   complex issues, our immediate plans, and our sense of his prognosis.
   We once again outlined how sick he was, and his limited chances for
   survival.  Family seems in agreement with making all reasonable efforts
   to Rx infection, but if no progress is made in his renal and liver
   failure then they may want to change the emphasis of care.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**],
   70min spent in the care of this critically ill patient, over 50% of
   which was spent counseling family as noted above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2183-9-22**] 14:55 ------

2183-09-23 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: cholecystitis, sepsis, respiratory failure
   24 Hour Events:
   - new cholecystostomy tube placed by IR in afternoon.  Required 3
   passes.
   - de-satted into upper 80s overnight with PaO2 into 60s, FiO2 increased
   to 100%, now at 70% with PEEP 14
   - norepinephrine weaned downed to 0.05 mcg/kg/min yesterday, increased
   to 0.07 mcg/kg/min to maintain MAP > 60.
   - family meeting conducted yesterday, no change in code status
   - continued on insulin drip for blood sugar control
   - tube feeds changed to renal
   - new murmur on exam, ECHO shows moderate MR
   - u/o decreasing, now 2.5 ml / hr
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-21**] 08:04 AM
   Meropenem - [**2183-9-23**] 01:02 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Insulin - Regular - 5 units/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-22**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 87 (72 - 100) bpm
   BP: 101/50(64) {87/47(58) - 130/59(79)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 17 (13 - 29)mmHg
   Total In:
                                                                  6,276 mL
                                                                    631 mL
   PO:
   TF:
                                                                    731 mL
                                                                    243 mL
   IVF:
                                                                  1,665 mL
                                                                    388 mL
   Blood products:
                                                                  3,880 mL
   Total out:
                                                                  2,900 mL
                                                                    120 mL
   Urine:
                                                                    215 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
                                                                  1,885 mL
                                                                     90 mL
   Balance:
                                                                  3,376 mL
                                                                    511 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.38/44/66/21/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 94
   Physical Examination
   GEN:  not  responsive to commands, appears comfortable on vent at this
   time
   HEENT:  MM dry, oropharynx clear
   CHEST:  inspiratory rales at bases, anterior chest clear
   HEART:  RRR, ventric rate 70s, 2-3/6 systolic murmur heard best at
   RUSB, radiates to R carotid, crescendo/decrescendo pattern noted, also
   2-3/6 systolic murmur heard at LLSB and apex, holosystolic, obscures
   S1/S2.
   ABD:  distended, tense, worse from previous exam,
   EXTR:  1+ pulses bilaterally dp, 2+ pulses bilaterally radial, warm and
   well-perfused, no cyanosis, good cap-refill
   TUBES/LINES/DRAINS:  cholecystostomy tube replaced, draining bilious
   fluid, dressings around tube dry.  no erythema noted around tube.
   Central line in place, peripherals without swelling or erythema.
   Flexiseal drain in place with good liquid stool drainage.
   Labs / Radiology
   69 K/uL
   8.7 g/dL
   68 mg/dL
   4.1 mg/dL
   21 mEq/L
   4.5 mEq/L
   152 mg/dL
   104 mEq/L
   140 mEq/L
   26.1 %
   13.5 K/uL
        [image002.jpg]
                            [**2183-9-21**]  10:29 AM
                            [**2183-9-21**]  05:01 PM
                            [**2183-9-22**]  05:25 AM
                            [**2183-9-22**]  05:49 AM
                            [**2183-9-22**]  05:11 PM
                            [**2183-9-22**]  05:27 PM
                            [**2183-9-22**]  08:14 PM
                            [**2183-9-22**]  11:08 PM
                            [**2183-9-23**]  03:02 AM
                            [**2183-9-23**]  04:10 AM
   WBC
   21.4
   15.2
   13.5
   Hct
   32.3
   25.3
   24.2
   24.4
   26.1
   Plt
   77
   62
   69
   Cr
   2.8
   2.7
   4.1
   TCO2
   22
   28
   27
   26
   27
   Glucose
   114
   128
   68
   Other labs: PT / PTT / INR:26.2/39.0/2.5, CK / CKMB /
   Troponin-T:29/4/0.01, [**Year (4 digits) **] / AST:39/128, Alk Phos / T Bili:68/15.1,
   Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %, Lymph:5.4
   %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:335 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:262 IU/L, Ca++:8.4 mg/dL, Mg++:3.6 mg/dL, PO4:6.3
   mg/dL
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, ESBL E. Coli
   sepsis, renal insufficiency, hepatic failure, and respiratory failure
   s/p intubation all c/b afib with rvr.
   #  Acute on Chronic renal insufficiency:   Decreased UOP in past [**5-18**]
   hours, last 2.5 cc/hr. Cr 4.1 today and increasing BUN 153.  likely due
   to combination of abdominal compartment syndrome, hepatorenal syndrome,
   perhaps some component of intravascular volume depletion although u/o
   decreasing despite 12 u FFP.  Phos 6.3 today
   - need to determine overall goals of care.  Family meeting yesterday
   with no change in code status.
   - Renal following and does not feel he is a candidate at this point for
   CVVH.  Overall trajectory makes CVVH/HD lower yield.  Recs include:
            - continue aluminum hydroxide 30 cc TID for phos binding.
            - re-visit decision re CVVH with renal and family.
            - change meropenem dose to 1 g daily
   - continue octreotide for ? hepatorenal
   - will not continue albumin for now, except in context of paracentesis
   - will wean levophed as tolerated by BP
   - no midodrine for now given already on norepinephrine and now
   vasopressin
   - Trend CVP, Cr and U/O with goal u/o > 30 cc/hr; Re-check labs q 6
   hours.
   - paracentesis today with goal removal of 5L for component of abdominal
   compartment syndrome
   - Avoid nephrotoxins and renally dose medications.
   - PM lytes
   #Hypoxic Respiratory Failure: overall increasing O2 requirement.  s/p
   Intubation [**9-14**].  present vent settings with FiO2 70%, RR 20, PEEP 14.
   O2 sats mid 90s.
   - Check ABG and wean FIO2 and PEEP as tolerated
   - position paient in reverse trendelenburg
   - follow O2 sats and ABG
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, urine, sputum, and bile.
   speciated to E. Coli initially susceptible to zosyn, resistant to
   cipro, however subsequent culture showed intermediate sensitivity then
   resistance to zosyn.  Abx changed to meropenem [**9-19**].  Sputum gram stain
   with 4+ GPC in pairs and clusters, growing GNR in culture.  Started on
   Vanc.  Urine cultures also with yeast, foley changed.  Blood cultures
   negative to date.  Temp to 100.2 at 0400 hrs on [**9-23**]. WBC increased
   [**Date range (1) 9382**], now down today.
   - Continue meropenem, (Day 1 of meropenem: [**9-18**]; today day 6.)   Plan
   to continue for 7 days from date of last negative culture.
   - d/c vanc. Day 1 of Vanc: [**9-17**], today day 7)
   - cont trend WBC and fever curve.
   - F/u culture data (bile from [**9-22**], blood, peritoneal fluid)
   - check Vanc trough today
   - if persistently febrile, consider changing lines, although blood
   cultures negative to date.
   # Atrial Fibrillation/Flutter//Tachycardia:. Amiodarone 5 mg drip
   continuing, total amiodarone 3.2 g as of 1500 [**9-22**].  HR now 70s.
   Potential etiologies for tachycardia include primary arrhythmia (a-fib
   with RVR), fever in the setting of ongoing infection, or intravascular
   volume depletion.
   - continue amiodarone gtt for now; patient did not tolerate attempts to
   po form as tachycardia increased significantly
   - Consider daily EKG
s as demand of heart in this setting deams patient
   at high risk for ischemia/infarction.
   - infectious workup/treatment as above.  Will follow HR relative to
   fever curve
   - consider levothyroxine increased serum levels in setting of liver and
   renal failure; will f/u on clearance of this drug
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR,  now at 2.5.
   AST increasing relative to [**Name2 (NI) **], likely all part of overall septic
   picture. T. bili increased over last several days, to 15.1. today.  Was
   tapped 5L peritoneal ascites Thursday; ([**9-18**]).
   - continue lactulose, goal [**3-16**] BMs per day
   - paracentesis with goal removal 5 L today
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   #  Altered mental status:  Delirium in setting of infection, in
   addition to sedation for mechanical ventilation likely still in system
   as cannot clear drug effectively, in addition to hepatic encephalopathy
   and uremia.
   - Continue to hold fentanyl and versed as patient can tolerate
   - Continue lactulose for probability of some hepatic encephalopathy
   - Consider HD in setting of very high BUN levels although renal states
   that he is not a candidate, patient
s mental status cannot be addressed
   in setting of sedation
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   - If patient requires CT for other reasons, can consider CT head, but
   unlikely to be worth the risk as a stand-alone exam
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Tube fell
   out [**9-21**] in context of dressing change.  Tube replaced by IR at
   bedside on [**9-22**] under US guidance with 100 cc bilious drainage.  T
   Bili elevated significantly
   - Continue abx as above
   - PPI [**Hospital1 **]
   - Zofran prn for nausea
   - If significant pain, will give prn dilaudid.
   # Anemia:  MCV elevated.  HCT stable to slightly up today.  Guaiac +.
   Active type and screen
   - monitor [**Hospital1 **] HCTs
   #  Thrombocytopenia:  Plts 69 today, stable
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:   may be in acute exacerbation of heart failure in
   addition to the pleural effusion.  New murmur noted [**9-22**] as described
   above.  ECHO shows moderate MR.  EKG normal.
   - restarted home aldactone
   #  DMII:  Continues on insulin drip  ; lability of sugars may be
   related to another source of infection
   - continue on insulin drip until adequate control of BS can be reached.
   - continue renal tube feeds
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-9-22**] 06:20 PM 35 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   20 Gauge - [**2183-9-21**] 11:00 PM
   Prophylaxis:
   DVT:  pneumoboots (hx of HIT antibody)
   Stress ulcer:  PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   11:12
   ------ Protected Section ------
   PGY-1 Addendum: Have read and agree with MSIV progress with the
   following additions.
   Physical Exam:
   Gen: Intubated, Not responsive, appears comfortable
   HEENT: +scleral icterus, PERRL, +corneal reflex
   CV: III/VI systolic murmur heard at the apex and RUSB
   Lungs: clear anteriorly
   Abd: +Distended, dull to percussion, cholecystomy tube in place
   Ext: warm, well perfused
   Plan:
   1. Acute Renal Failure: current concern for HUS by renal, being treated
   with albumin, octreotide, holding midodrine while on levophed and with
   initiation of vasopressin.  Need to readdress the role of CVVH in this
   patient with renal, given very poor prognosis, and unclear what CVVH
   would be a bridge to.
   --Continue aluminum hydroxide as a phos binder
   --tube feeds changed to renal diet
   --patient failed lasix gtt trial
   --paracentesis today as his abdomen is more distended and his renal
   function has previously responded well to paracentesis
   2.  Sepsis: patient with resistant E.coli in his peritoneal fluid and
   bile, currently being treated with meropenem, dose adjusted to 500mg
   Q12h as per renal and pharmacy, will outline current antibiotic course
   once he has negative cultures from his peritoneal fluid.
   --will restart vasopressin and hopefully be able to titrate the
   levophed down
   --will readdress goals of care with family today, after family meeting
   yesterday
   --if he remains persistently febrile will have to address lines as a
   possible source of infection
   3. Atrial Fibrillation/Flutter: patient currently rate controlled on
   amio infusion, total dose to date calculated yesterday with help of
   pharmacy, will likely continue load IV as prior conversion to po
   resulted in reflex tachycardia
   4.  Cirrhosis: patient currently on lactulose to help with hepatic
   encephalopathy, will continue for now
   --likely paracentesis today
   5. Anemia: patient with 6 point HCT drop over the weekend with guaiac
   positive, dark stools, not currently at transfusion threshold.  Will
   maintain an active type and screen and continue [**Hospital1 **] PPI.
   Remainder of plan as outlined above.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3081**] [**Last Name (NamePattern1) 9286**], MD
   on:[**2183-9-23**] 11:38 ------

2183-09-23 10:03:00 Physician Attending Progress Note
Chief Complaint: cholecystitis, resp failure, sepsis (esbl e coli), a
   fib with rvr
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS DRAIN INSERTION - At [**2183-9-22**] 02:55 PM
   cholectomy tube placed
   acting more infected over the wkd.
 his cholecystostomy tube migrated and was repositioned by IR at
   bedside
   --given 12 ffp peri-procedure
   Desatted yesterday now on 70% fio2
   remains on pressors
   Family mtg yesterday with family aware of poor prognosis
   TFs changed to renal
   New murmur heard and tte ordered
   urine continues to drop and cr rising
   fever curve increased wioth temp spike this am
   History obtained from ho
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-21**] 08:04 AM
   Meropenem - [**2183-9-23**] 01:02 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-22**] 08:28 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-23**] 10:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.3
   HR: 87 (72 - 100) bpm
   BP: 95/48(61) {89/47(61) - 130/59(79)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 17 (13 - 29)mmHg
   Total In:
                                                                  6,276 mL
                                                                    777 mL
   PO:
   TF:
                                                                    731 mL
                                                                    302 mL
   IVF:
                                                                  1,665 mL
                                                                    475 mL
   Blood products:
                                                                  3,880 mL
   Total out:
                                                                  2,900 mL
                                                                    140 mL
   Urine:
                                                                    215 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
                                                                  1,885 mL
                                                                     90 mL
   Balance:
                                                                  3,376 mL
                                                                    637 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 70%
   RSBI Deferred: FiO2 > 60%
   PIP: 34 cmH2O
   Plateau: 31 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/44/66/21/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), mitral
   area
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : bases,
   Diminished: bases)
   Abdominal: Bowel sounds present, Distended, Obese, diminshed present
   BS, tense
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, No(t) Sedated, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   69 K/uL
   68 mg/dL
   4.1 mg/dL
   21 mEq/L
   4.5 mEq/L
   152 mg/dL
   104 mEq/L
   140 mEq/L
   26.1 %
   13.5 K/uL
        [image002.jpg]
                            [**2183-9-21**]  10:29 AM
                            [**2183-9-21**]  05:01 PM
                            [**2183-9-22**]  05:25 AM
                            [**2183-9-22**]  05:49 AM
                            [**2183-9-22**]  05:11 PM
                            [**2183-9-22**]  05:27 PM
                            [**2183-9-22**]  08:14 PM
                            [**2183-9-22**]  11:08 PM
                            [**2183-9-23**]  03:02 AM
                            [**2183-9-23**]  04:10 AM
   WBC
   21.4
   15.2
   13.5
   Hct
   32.3
   25.3
   24.2
   24.4
   26.1
   Plt
   77
   62
   69
   Cr
   2.8
   2.7
   4.1
   TCO2
   22
   28
   27
   26
   27
   Glucose
   114
   128
   68
   Other labs: PT / PTT / INR:26.2/39.0/2.5, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:39/128, Alk Phos / T Bili:68/15.1,
   Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %, Lymph:5.4
   %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:335 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:262 IU/L, Ca++:8.4 mg/dL, Mg++:3.6 mg/dL, PO4:6.3
   mg/dL
   Imaging: ct chest abd pelvis reviewed
   Microbiology: bl cx neg to date
   peritoneal fluid neg
   urine with yeast
   repeat ptc cx ngtd
   Assessment and Plan
   70 yo M w/ d CHF, cirrhosis, CRI with ESBL e coli sepsis in setting of
   acute cholecystitis c/b MODS
   Active issues remain:
          ESBL e cli sepsis (peritonitis, acute cholecystitis s/p ptc
   drainage and replacement)
          Acute on CRI
          Resp failure
          Liver failure with h/o cirrhosis from NASH, ascitis
          Leukocytosis
          Fevers
          Thrombocytopenia
          Anemia
          coagulopathy
          AMS/delirium
          A-fib w/ rvr
          hyperglycemia/labile
   Very concerning is pt
s worsening renal failure with declining urine
   outpt.  We suspect this is 2/2 HRS with tense ascitis likely further
   contributing.  His CVP appears adequately tanked though he likely needs
   this in setting of increased abd pressures.  From a resp standpoint his
   CT shows RLL and LLL atelectasis with small effusion, though one cannot
   also rule out pneumonitis. His FIO2 requirements have increased, likely
   in part related to abd distention and poor lung expansion as well as
   volume overload in the setting of progressive renal decline.
   Agree w/ plan to continue to follow bladder pressures and repeat
   therapeutic paracentesis as this has helped improve his urine outpt
   previously. We will continue to discuss with renal team and pts family
   the possibility of initiating CVVH.  Given the pts very poor prognosis
   w/ MODS and presumed HRS, while CVVH may prolong course it would not
   change his underlying poor prognosis.  We continue octreotide but will
   hold on adding midodrine in setting of additional vasopressor support.
   Renal team is following.  He remains on phos binder and we are renally
   dosing his meds.
   Will continue ACV support, using ards net TVs and peep, weaning  FIO2
   as able to maintain pao2 > 60.
    He has appeared more infected over wkd, likely from PTC migration, now
   replaced.  Additional infection work up is underway with no clear new
   source identified.  His wbc ct is coming down overall but he has
   fevers.  If he  continues to spike temps, will consider changing out
   CVL and A-line, though bl cx remain without growth to date.  He remains
   on meropenem since [**9-19**]
   We are monitoring his plts and coags closely. Will follow dic labs and
   h/h noting hct drop 2 days ago has now stabilized.
   Will resume vasopressin for BP support with hope of weaning off
   levophed.
   He remains obtunded off of all sedatives, likely [**1-13**] liver and renal
   failure/toxic metabolic status. We continue lactulose for HE component.
   Pt remains in MODS with grim prognosis for recovery.  We continue
   current level of aggressive care and continue to meet with and update
   family regarding goals.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   20 Gauge - [**2183-9-21**] 11:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  ppi
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   Addendum:
   I was present throughout the entire paracentesis procedure performed by
   Dr. [**Last Name (STitle) **]. Pleural fluid appeared bloody. We aborted  large volume tap
   in hoped of tamponading any abd bleeding and sent cx
s. hct and cell
   ct.
   We are concerned that there may have been bleeding related to traumatic
   PTC replacement noting temporal relationship.  Labs prior to para show
   HCT drop to 22 from 26.  (Hct was 32  2 days ago but then stabilized at
   24-26).  We will transfuse and give FFP.  Plts now 69, and will
   maintain > 50 in setting of bleeding.  HD remain stable without change
   in pressor requirement or HR.  Will contact gen surgery and IR for any
   additional suggestions though pt would be very poor surgical
   candidate.  Pts family was updated and all questions answered.  Family
   aware of poor prgnosis.  Family also has decided to change coder status
   to DNR.
   Additional crit care time spent : 40 min

2183-09-24 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Renal may consider CVVH to get some volume off if oxygenation gets
   worse and there are no other options, but not likely because he may not
   tolerate especially w hypotension and on levophed; we should readdress
   goals of care w family today
   - DCed vancomycin b/c has had full 8 day course (and level is so high
   that he wont need anymore dosing to last for a while); vanc was started
   to cover Gm+ cocci in sputum which didn't grow out in cultures
   - continues with increased FiO2 requirement at 70%--> decreased to 60%
   FiO2, tolerated well in evening (O2sat 94%)
   - want to keep tidal volumes down to fit w ARDS protocol (b/c his p:f
   ratios suggest ARDS)
   - PM Hct showed Hct drop from 26--> 22
   - s/p Diagnostic tap -- peritoneal fluid grossly bloody, so volume tap
   aborted --> fluid shows Hct 3% and WBC 333.
   - 1u pRBCs transfused
   - family updated by [**First Name8 (NamePattern2) 5027**] [**Last Name (NamePattern1) 9173**].  overnight, we promised to call
   daughter [**Name (NI) 284**] if pressor requirement increases or if pt needing lots of
   transfusions, or if respiratory status declining quickly.
   - DIC labs sent -- fibrinogen low at 77, D-dimer high --> checking Q6h
   DIC labs.  1bag Cryo transfused.
   - post-transfusion Hct: bumped from 22--> 23.9 , not quite appropriate
   - 10pm Fibrinogen = 102 (UpToDate says to give cryo if <50 to keep
   fibrinogen >100, so did not give cryo at this time)
   - 1am fibrinogen = 103  ; 3:30am fibrinogen  = 92  ;
   - pending 8am fibrinogen = ?
   - A-line not [**Location (un) 118**] accurate BPs; per, nursing on day and night shift,
   it is dampened and not working well.  may need another A-line
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Vancomycin - [**2183-9-21**] 08:04 AM
   Meropenem - [**2183-9-23**] 01:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-23**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-24**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 90 (87 - 103) bpm
   BP: 90/56(67) {85/48(61) - 112/86(90)} mmHg
   RR: 24 (22 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
    CVP: 24 (16 - 24)mmHg
   Total In:
                                                                  2,812 mL
                                                                    175 mL
   PO:
   TF:
                                                                    801 mL
   IVF:
                                                                    966 mL
                                                                    175 mL
   Blood products:
                                                                    985 mL
   Total out:
                                                                    257 mL
                                                                    905 mL
   Urine:
                                                                    107 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
   Balance:
                                                                  2,555 mL
                                                                   -730 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 91%
   ABG: 7.37/40/80.[**Numeric Identifier 20**]/20/-1
   Ve: 12.1 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: Intubated, Not responsive, appears comfortable
   HEENT: +scleral icterus, PERRL, +corneal reflex
   CV: III/VI systolic murmur heard at the apex and RUSB
   Lungs: clear anteriorly
   Abd: +Distended, dull to percussion, cholecystomy tube in place
   Ext: warm, well perfused
   Labs / Radiology
   73 K/uL
   8.1 g/dL
   110 mg/dL
   5.2 mg/dL
   20 mEq/L
   5.3 mEq/L
   167 mg/dL
   105 mEq/L
   142 mEq/L
   24.0 %
   11.9 K/uL
        [image002.jpg]
                            [**2183-9-22**]  08:14 PM
                            [**2183-9-22**]  11:08 PM
                            [**2183-9-23**]  03:02 AM
                            [**2183-9-23**]  04:10 AM
                            [**2183-9-23**]  03:10 PM
                            [**2183-9-23**]  03:16 PM
                            [**2183-9-23**]  05:40 PM
                            [**2183-9-23**]  10:08 PM
                            [**2183-9-24**]  03:07 AM
                            [**2183-9-24**]  03:40 AM
   WBC
   13.5
   11.8
   11.9
   Hct
   24.4
   26.1
   22.0
   23.9
   24.0
   Plt
   69
   69
   73
   Cr
   4.1
   5.2
   TCO2
   26
   27
   25
   21
   24
   Glucose
   68
   110
   Other labs: PT / PTT / INR:29.2/38.7/2.9, CK / CKMB /
   Troponin-T:29/4/0.01, [**Year (4 digits) **] / AST:54/226, Alk Phos / T Bili:66/18.6,
   Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %, Lymph:5.4
   %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:95 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:262 IU/L, Ca++:8.7 mg/dL, Mg++:3.8 mg/dL, PO4:7.4
   mg/dL
   TTE:
   IMPRESSION: Suboptimal image quality. Mild-moderate mitral
   regurgitation with grossly normal valve morphology. Moderate pulmonary
   artery systolic hypertension. Dilated ascending aorta. Aortic valve
   sclerosis. Preserved global biventricular systolic function.
   If the clinical suspicion for endocarditis is moderate or high, a TEE
   is suggested to better define the mitral valve morphology.
   Assessment and Plan
   70 yo male with pmh of dCHF, cirrhosis, CRI, CAD, prostate cancer,
   found to have acute cholecystitis s/p cholecystostomy, ESBL E. Coli
   sepsis, renal insufficiency, hepatic failure, and respiratory failure
   s/p intubation all c/b afib with rvr.
   # DIC:
   #. Acute Renal Failure:
   Current concern for HUS by renal, being treated with albumin,
   octreotide, holding midodrine while on levophed and with initiation of
   vasopressin.  Need to readdress the role of CVVH in this patient with
   renal, given very poor prognosis, and unclear what CVVH would be a
   bridge to.  tube feeds changed to renal diet yesterday
   --Continue aluminum hydroxide as a phos binder
   --patient failed lasix gtt trial
   --could not do large volume paracentesis yesterday due to gross blood
   in ascetic fluid
   #  Acute on Chronic renal insufficiency:   Decreased UOP in past [**5-18**]
   hours, last 2.5 cc/hr. Cr 4.1 today and increasing BUN 153.  likely due
   to combination of abdominal compartment syndrome, hepatorenal syndrome,
   perhaps some component of intravascular volume depletion although u/o
   decreasing despite 12 u FFP.  Phos 6.3 today
   - need to determine overall goals of care.  Family meeting yesterday
   with no change in code status.
   - Renal following and does not feel he is a candidate at this point for
   CVVH.  Overall trajectory makes CVVH/HD lower yield.  Recs include:
            - continue aluminum hydroxide 30 cc TID for phos binding.
            - re-visit decision re CVVH with renal and family.
            - change meropenem dose to 1 g daily
   - continue octreotide for ? hepatorenal
   - will not continue albumin for now, except in context of paracentesis
   - will wean levophed as tolerated by BP
   - no midodrine for now given already on norepinephrine and now
   vasopressin
   - Trend CVP, Cr and U/O with goal u/o > 30 cc/hr; Re-check labs q 6
   hours.
   - paracentesis today with goal removal of 5L for component of abdominal
   compartment syndrome
   - Avoid nephrotoxins and renally dose medications.
   - PM lytes
   #.  Sepsis: patient with resistant E.coli in his peritoneal fluid and
   bile, currently being treated with meropenem, dose adjusted to 500mg
   Q12h as per renal and pharmacy, will outline current antibiotic course
   once he has negative cultures from his peritoneal fluid.
   --will restart vasopressin and hopefully be able to titrate the
   levophed down
   --will readdress goals of care with family today, after family meeting
   yesterday
   --if he remains persistently febrile will have to address lines as a
   possible source of infection
   #  Sepsis:  Sepsis secondary to bacterial peritonitis secondary to
   cholecystitis with GNR in peritoneal fluid, urine, sputum, and bile.
   speciated to E. Coli initially susceptible to zosyn, resistant to
   cipro, however subsequent culture showed intermediate sensitivity then
   resistance to zosyn.  Abx changed to meropenem [**9-19**].  Sputum gram stain
   with 4+ GPC in pairs and clusters, growing GNR in culture.  Started on
   Vanc.  Urine cultures also with yeast, foley changed.  Blood cultures
   negative to date.  Temp to 100.2 at 0400 hrs on [**9-23**]. WBC increased
   [**Date range (1) 9382**], now down today.
   - Continue meropenem, (Day 1 of meropenem: [**9-18**]; today day 6.)   Plan
   to continue for 7 days from date of last negative culture.
   - d/c vanc. Day 1 of Vanc: [**9-17**], today day 7)
   - cont trend WBC and fever curve.
   - F/u culture data (bile from [**9-22**], blood, peritoneal fluid)
   - check Vanc trough today
   - if persistently febrile, consider changing lines, although blood
   cultures negative to date.
   #Hypoxic Respiratory Failure: overall increasing O2 requirement.  s/p
   Intubation [**9-14**].  present vent settings with FiO2 70%, RR 20, PEEP 14.
   O2 sats mid 90s.
   - Check ABG and wean FIO2 and PEEP as tolerated
   - position paient in reverse trendelenburg
   - follow O2 sats and ABG
   #. Atrial Fibrillation/Flutter: patient currently rate controlled on
   amio infusion,
   - keep track of total amio infusion dose
   - will likely continue load IV as prior conversion to po resulted in
   reflex tachycardia
   # Atrial Fibrillation/Flutter//Tachycardia:. Amiodarone 5 mg drip
   continuing, total amiodarone 3.2 g as of 1500 [**9-22**].  HR now 70s.
   Potential etiologies for tachycardia include primary arrhythmia (a-fib
   with RVR), fever in the setting of ongoing infection, or intravascular
   volume depletion.
   - continue amiodarone gtt for now; patient did not tolerate attempts to
   po form as tachycardia increased significantly
   - Consider daily EKG
s as demand of heart in this setting deams patient
   at high risk for ischemia/infarction.
   - infectious workup/treatment as above.  Will follow HR relative to
   fever curve
   - consider levothyroxine increased serum levels in setting of liver and
   renal failure; will f/u on clearance of this drug
   #.  Cirrhosis: patient currently on lactulose to help with hepatic
   encephalopathy, will continue for now
   #  Cirrhosis secondary to NASH:  The patient has known cirrhosis
   complicated by encephalopathy requiring lactulose.  He has current
   evidence of synthetic dysfunction with an increasing INR,  now at 2.5.
   AST increasing relative to [**Name2 (NI) **], likely all part of overall septic
   picture. T. bili increased over last several days, to 15.1. today.  Was
   tapped 5L peritoneal ascites Thursday; ([**9-18**]).
   - continue lactulose, goal [**3-16**] BMs per day
   - paracentesis with goal removal 5 L today
   - PPI [**Hospital1 **]
   - trend coags, LFTs, platelets
   - continue to hold nadolol
   #. Anemia: patient with 6 point HCT drop over the weekend and another 4
   point drop in Hct yesterday afternoon.  Gross blood found in peritoneal
   fluid.   Transfused 1u pRBCs yesterday.  Has GI bleed hx and guaiac +
   stools as well.
   - Will maintain an active type and screen
   - continue [**Hospital1 **] PPI.
   #  Altered mental status:  Delirium in setting of infection, in
   addition to sedation for mechanical ventilation likely still in system
   as cannot clear drug effectively, in addition to hepatic encephalopathy
   and uremia.
   - Continue to hold fentanyl and versed as patient can tolerate
   - Continue lactulose for probability of some hepatic encephalopathy
   - Consider HD in setting of very high BUN levels although renal states
   that he is not a candidate, patient
s mental status cannot be addressed
   in setting of sedation
   - F/U urine, blood, sputum, and peritoneal cultures.  Continue
   treatment for underlying sepsis.
   - If patient requires CT for other reasons, can consider CT head, but
   unlikely to be worth the risk as a stand-alone exam
   # Acute cholecystitis:  s/p cholycystostomy by IR on [**9-13**].  Tube fell
   out [**9-21**] in context of dressing change.  Tube replaced by IR at
   bedside on [**9-22**] under US guidance with 100 cc bilious drainage.  T
   Bili elevated significantly
   - Continue abx as above
   - PPI [**Hospital1 **]
   - Zofran prn for nausea
   - If significant pain, will give prn dilaudid.
   #  Thrombocytopenia:  Plts 69 today, stable
   - continue to trend.
   - transfusion threshold < 10 or < 30 if bleeding
   #  Hx of CAD/dCHF:   may be in acute exacerbation of heart failure in
   addition to the pleural effusion.  New murmur noted [**9-22**] as described
   above.  ECHO shows moderate MR.  EKG normal.
   - restarted home aldactone
   #  DMII:  Continues on insulin drip  ; lability of sugars may be
   related to another source of infection
   - continue on insulin drip until adequate control of BS can be reached.
   - continue renal tube feeds
   #  Hypothyroidism:
   - Continue outpatient levothyroxine.
   ICU Care
   Nutrition:
   Glycemic Control:  insulin drip
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   20 Gauge - [**2183-9-21**] 11:00 PM
   Prophylaxis:
   DVT: pneumoboots (hx of HIT)
   Stress ulcer: PPI
                  VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (confirmed w HCP and family [**2183-9-23**])
   Disposition:  ICU

2183-09-24 10:12:00 Physician Attending Progress Note
Chief Complaint: cirrhosis, mods
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2183-9-23**] 09:09 AM
 PARACENTESIS - At [**2183-9-23**] 03:40 PM
 PARACENTESIS - At [**2183-9-23**] 03:55 PM
   Fio2 weaned to 60%--tolerated well
   Vanco d/c'd
   Hct drop--> para fluid bloody, recieved 1 prbc.  dic panel with low
   fibrinogen and cryo and ffp given
   u/o continues to decline--> anuric
   tte showed mild mr, no [**Last Name (LF) 9405**], [**First Name3 (LF) **] > 60%, mild pa htn
   History obtained from ho
   Allergies:
   Rocephin (Intraven.) (Ceftriaxone Sodium)
   bleeding(liver)
   Ceftriaxone
   bleeding(liver)
   Last dose of Antibiotics:
   Meropenem - [**2183-9-23**] 01:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Amiodarone - 0.5 mg/min
   Insulin - Regular - 8 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-9-23**] 08:05 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-9-24**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.6
   HR: 86 (83 - 103) bpm
   BP: 74/68(71) {74/49(62) - 112/93(94)} mmHg
   RR: 21 (21 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 0 kg (admission): 116 kg
   Height: 70 Inch
   CVP: 22 (18 - 24)mmHg
   Total In:
                                                                  2,851 mL
                                                                    678 mL
   PO:
   TF:
                                                                    840 mL
                                                                    341 mL
   IVF:
                                                                    966 mL
                                                                    337 mL
   Blood products:
                                                                    985 mL
   Total out:
                                                                    257 mL
                                                                    985 mL
   Urine:
                                                                    107 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
                                                                    150 mL
                                                                     70 mL
   Balance:
                                                                  2,594 mL
                                                                   -307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 92%
   ABG: 7.37/40/80.[**Numeric Identifier 20**]/20/-1
   Ve: 11.8 L/min
   PaO2 / FiO2: 133
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, jandiced
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Diminished: bases, Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   73 K/uL
   110 mg/dL
   5.2 mg/dL
   20 mEq/L
   5.3 mEq/L
   167 mg/dL
   105 mEq/L
   142 mEq/L
   24.0 %
   11.9 K/uL
        [image002.jpg]
                            [**2183-9-22**]  08:14 PM
                            [**2183-9-22**]  11:08 PM
                            [**2183-9-23**]  03:02 AM
                            [**2183-9-23**]  04:10 AM
                            [**2183-9-23**]  03:10 PM
                            [**2183-9-23**]  03:16 PM
                            [**2183-9-23**]  05:40 PM
                            [**2183-9-23**]  10:08 PM
                            [**2183-9-24**]  03:07 AM
                            [**2183-9-24**]  03:40 AM
   WBC
   13.5
   11.8
   11.9
   Hct
   24.4
   26.1
   22.0
   23.9
   24.0
   Plt
   69
   69
   73
   Cr
   4.1
   5.2
   TCO2
   26
   27
   25
   21
   24
   Glucose
   68
   110
   Other labs: PT / PTT / INR:29.2/38.7/2.9, CK / CKMB /
   Troponin-T:29/4/0.01, ALT / AST:54/226, Alk Phos / T Bili:66/18.6,
   Amylase / Lipase:/17, Differential-Neuts:88.3 %, Band:12.0 %, Lymph:5.4
   %, Mono:5.5 %, Eos:0.7 %, Fibrinogen:95 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:2.8 g/dL, LDH:262 IU/L, Ca++:8.7 mg/dL, Mg++:3.8 mg/dL, PO4:7.4
   mg/dL
   Assessment and Plan
   70 yo M w/ d CHF, cirrhosis, CRI with ESBL e coli sepsis in setting of
   acute cholecystitis c/b MODS
   Active issues remain:
          ESBL e cli sepsis (peritonitis, acute cholecystitis s/p ptc
   drainage and replacement)
          Acute on CRI
          Resp failure
          Liver failure with h/o cirrhosis from NASH, ascitis
          Leukocytosis
          Fevers
          Thrombocytopenia
          Anemia
          coagulopathy
          AMS/delirium
          A-fib w/ rvr
          hyperglycemia/labile
   Anuric.  Now with slowly rising K. We suspect this is 2/2 HRS with
   ascitis likely further contributing.  His CVP is adequately tanked
   though he likely needs this in setting of increased abd pressures.
   Despite total body overload, we were able to decrease his FIO2back down
   to 60% which he is tolerating.
   Agree w/ plan to continue supporting with ACV, ards net volumes.
   Pressure on vent are holing snd he oxygenating well on 60% fio2 despite
   total volume overload.
   Rehgarding his worsening renal failure, we are unable to remove volume
   and his K is slowly rising.  Given the pts very poor prognosis w/ MODS
   and presumed HRS, while CVVH may prolong course it would not change his
   underlying poor prognosis.  We continue octreotide but will hold on
   adding midodrine in setting of additional vasopressor support. Renal
   team is following.  He remains on phos binder and we are renally dosing
   his meds.  We will dicuss/address ongoing goals of care in family mtg
   today, as CVVH would not be a bridge to recovery.
   His hct has bumnpoed appropraitely after 1 unit.  Suspect some intrasbd
   bleeding related to traumatic PTC placement. His low fibirniogen likely
   related to low level dic/consumptive process.  We continue to follow
   hct/dic panel and transfuse for active bleeding. Will hgold on para as
   this is likely further tamponading his bleeding.
   He has appeared more infected over wkd, likely from PTC migration, now
   replaced.  Additional infection work up is underway with no clear new
   source identified.  His wbc ct is coming down overall but he has
   fevers.  If he  continues to spike temps, will consider changing out
   CVL and A-line, though bl cx remain without growth to date.  He remains
   on meropenem since [**9-19**]
   He remains on  vasopressin for BP support.
   He remains obtunded off of all sedatives, some grimace to sternal rub.
    Likely [**1-13**] liver and renal failure/toxic metabolic status. We continue
   lactulose for HE component.
   Pt remains in MODS with grim prognosis for recovery.  We continue
   current level of aggressive care and continue to meet with and update
   family regarding goals.  Wouyld hold off on line changes given neg
   blood cx and will disucss further invasive interventiolns in family mtg
   today.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2183-9-23**] 10:36 PM 35 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   Multi Lumen - [**2183-9-12**] 10:00 AM
   Arterial Line - [**2183-9-14**] 09:13 PM
   18 Gauge - [**2183-9-19**] 12:50 AM
   20 Gauge - [**2183-9-21**] 11:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill